2102-02-03 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-2-2**] 08:58 PM
 ARTERIAL LINE - START [**2102-2-2**] 11:30 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2102-2-3**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-3**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 61 (58 - 77) bpm
   BP: 125/65(80) {104/51(64) - 167/86(106)} mmHg
   RR: 18 (11 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,074 mL
                                                                    165 mL
   PO:
             TF:
   IVF:
                                                                     74 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    195 mL
                                                                    608 mL
   Urine:
                                                                    195 mL
                                                                    608 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,879 mL
                                                                   -443 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 18
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.50/46/99.[**Numeric Identifier 508**]/35/10
   Ve: 8.7 L/min
   PaO2 / FiO2: 167
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   154 K/uL
   13.5 g/dL
   93 mg/dL
   1.4 mg/dL
   35 mEq/L
   4.2 mEq/L
   38 mg/dL
   99 mEq/L
   141 mEq/L
   42.3 %
   6.7 K/uL
         [image002.jpg]
                             [**2102-2-2**]  09:40 PM
                             [**2102-2-2**]  10:01 PM
                             [**2102-2-3**]  03:49 AM
                             [**2102-2-3**]  06:33 AM
   WBC
   6.7
   Hct
   42.3
   Plt
   154
   Cr
   1.4
   1.4
   TropT
   0.08
   0.10
   TCO2
   37
   37
   Glucose
   89
   99
   93
   Other labs: PT / PTT / INR:24.3/28.9/2.4, CK / CKMB /
   Troponin-T:15/3/0.10, Lactic Acid:1.6 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]): Not entirely clear by
   history what precipitated respiratory decompensation.
   Differential includes
   pneumonia (including post-obstructive to NSCLC),
   flash pulmonary edema ( BNP 8000)
   heart failure
   pulmonary embolism (ltherapeutic INR, but has history of recent DVT, is
   relatively immobile, malignancy history), respiratory depression
   secondary to medications (rare percocet as ordered, no response to
   narcan),
   aspiration event
   ACS  ruled out with flat CKs.
   OSA may be contributing but not entire explanation.
   Plan:
   - Continue antibiotics, sending sputum culture, blood cultures
   - Will attempt to wean ventilator settings (going down on TV given
   respiratory alkalosis, and increase PEEP slightly) trial of pressure
   support if his mental status improves, following serial ABGs
   - Consider CT chest to further evaluate malignancy
   - Cardiac echo to look for wall motion abnormalities, diastolic
   dysfunction, RV dysfunction
   .
   #. Altered mental status: Difficult to know if this was simply related
   to hypoxia, or if this was inciting event leading to respiratory
   distress. Head CT negative for acute process. His family does report he
   had been sleeping more over the last few weeks. No clear medications
   that could be contributing (he has been on percocet, has not received
   any benadryl which is a PRN medication for him)
   - Wean propofol, monitor neurologic status
   - Consider additional work-up (eg LP, additional imaging, neurology
   consult) should his mental status not improve
   .
   #. History of DVT: Holding anti-coagulation given that he is
   therapeutic, and potential need for intervention. No clear leg
   asymmetry at present.
   .
   #. History of lung cancer (NSCLC): Per family, patient did not have
   regular follow up with his oncologist. Unclear if this was in remission
   (family suggests this may have been the case), or if this could be
   contributing to his respiratory distress.
   - Outside hospital records, consider chest CT to further evaluate
   .
   #. Hypertension: Holding BP medications given BP is currently 100-110
   systolic.
   .
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   .
   # Renal insufficiency: Unknown baseline. BUN somewhat elevated, so
   could be pre-renal, though appears total body volume overloaded.
   Checking BNP, will follow trend, consider additional IVF's.
   - Getting outside records, consider urine electrolytes/renal ultrasound
   if off from baseline and does not improve after 4L in ED
   .
   # Elevated LFTs: Unknown baseline, ALT elevated at admission, lipase
   just slightly above normal. Abdomen is large, but soft with bowel
   sounds present.
   - Continue to monitor trend.
   .
   # Borderline bradycardia: Suspect this was secondary to his
   beta-blocker, although baseline HR and EKG unknown, so could also
   represent ischemia. Appears to be stable presently without any heart
   block.
   - Continue to monitoring, holding metoprolol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   Prophylaxis:
   DVT:  coumadin
   Stress ulcer: PPI
   Communication:  sister
   [**Name (NI) 36**] status: Full
   Disposition:ICU

2102-02-04 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 77 year old male with past medical
   history of lung cancer, DVT, and hypertension who presents with
   respiratory distress and unresponsiveness.
   24 Hour Events:
 URINE CULTURE - At [**2102-2-3**] 11:08 AM
 BRONCHOSCOPY - At [**2102-2-3**] 12:28 PM
 SPUTUM CULTURE - At [**2102-2-3**] 12:28 PM
   - Bronch done in AM showing purulent secretions in RUL w/ plugging and
   scattered secretions entire R side. L side normal.
   - per radiology NG tube coiled - replaced
   - OSH records show pt had ulcerated plaque at ascending and descending
   aorta. Pt's baseline Cr 1.4. Pt's pmh - Stage III NSCLC s/p RLL
   lobectomy received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable,
   and had not seen a doctor since [**2098**].
   - Echo - EF 55%, RV dilated, w/ moderate free wall hypokinesis w/
   normal LV
   - CTA done overnight negative for PE, R hilar consildation seen, and
   b/l pleural effusion L>R
   - FeUrea 26% c/w prerenal, and UOP low - pt given IVF 1L from
   pre-hydration bicarb
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-3**] 10:00 PM
   Vancomycin - [**2102-2-3**] 10:25 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-4**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 60 (59 - 75) bpm
   BP: 126/56(78) {117/56(75) - 126/60(78)} mmHg
   RR: 20 (0 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,795 mL
                                                                    870 mL
   PO:
             TF:
   IVF:
                                                                  1,795 mL
                                                                    870 mL
   Blood products:
   Total out:
                                                                  1,393 mL
                                                                    260 mL
   Urine:
                                                                  1,393 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    402 mL
                                                                    610 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (310 - 470) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.37/68/99.[**Numeric Identifier 508**]/37/10
   Ve: 5.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GENERAL: Male appearing stated age, intubated, sedated, withdrawals to
   noxious stimuli, otherwise does not follow commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   Labs / Radiology
   135 K/uL
   12.5 g/dL
   107 mg/dL
   1.5 mg/dL
   37 mEq/L
   3.8 mEq/L
   36 mg/dL
   98 mEq/L
   140 mEq/L
   39.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-2**]  09:40 PM
                             [**2102-2-2**]  10:01 PM
                             [**2102-2-3**]  03:49 AM
                             [**2102-2-3**]  06:33 AM
                             [**2102-2-3**]  05:01 PM
                             [**2102-2-3**]  05:14 PM
                             [**2102-2-4**]  04:22 AM
                             [**2102-2-4**]  04:42 AM
   WBC
   6.7
   4.6
   Hct
   42.3
   39.9
   Plt
   154
   135
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   0.08
   0.10
   TCO2
   37
   37
   39
   41
   Glucose
   89
   99
   93
   107
   Other labs: PT / PTT / INR:21.0/29.7/2.0, CK / CKMB /
   Troponin-T:15/3/0.10, Differential-Neuts:74.5 %, Lymph:14.0 %, Mono:6.0
   %, Eos:5.1 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   .
   #. Respiratory distress: Not entirely clear by history what
   precipitated respiratory decompensation. Differential includes
   pneumonia (including post-obstructive given no clear follow-up and
   unknown full details of his NSCLC, given question of cough at nursing
   home), flash pulmonary edema, heart failure (given edema noted on exam,
   history of possible MI in past), pulmonary embolism (less likely given
   therapeutic INR, but has history of recent DVT, is relatively immobile,
   malignancy history), respiratory depression secondary to medications
   (however only appears to have been getting percocet as ordered, no
   response to narcan), aspiration event, or ACS (appears less likely
   given flat CK hours after event). Given habitus, OSA is also a
   possibility, though this would not explain acute decline.
   - Continue antibiotics, sending sputum culture, blood cultures
   - Will attempt to wean ventilator settings (going down on TV given
   respiratory alkalosis, and increase PEEP slightly) trial of pressure
   support if his mental status improves, following serial ABGs
   - Should it prove to be difficult to wean from vent, or difficult to
   ventilate, consider CT chest to further evaluate for any component
   related to malignancy
   - Tox screen negative (although oxycodone does not appear on this
   screen)
   - Cardiac echo to look for wall motion abnormalities, diastolic
   dysfunction, RV dysfunction
   - Trend cardiac enzymes, repeat EKG in AM
   - Checking BNP
   .
   #. Altered mental status: Difficult to know if this was simply related
   to hypoxia, or if this was inciting event leading to respiratory
   distress. Head CT negative for acute process. His family does report he
   had been sleeping more over the last few weeks. No clear medications
   that could be contributing (he has been on percocet, has not received
   any benadryl which is a PRN medication for him)
   - Wean propofol, monitor neurologic status
   - Consider additional work-up (eg LP, additional imaging, neurology
   consult) should his mental status not improve
   .
   #. History of DVT: Holding anti-coagulation given that he is
   therapeutic, and potential need for intervention. No clear leg
   asymmetry at present.
   .
   #. History of lung cancer (NSCLC): Per family, patient did not have
   regular follow up with his oncologist. Unclear if this was in remission
   (family suggests this may have been the case), or if this could be
   contributing to his respiratory distress.
   - Outside hospital records, consider chest CT to further evaluate
   .
   #. Hypertension: Holding BP medications given BP is currently 100-110
   systolic.
   .
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   .
   # Renal insufficiency: Unknown baseline. BUN somewhat elevated, so
   could be pre-renal, though appears total body volume overloaded.
   Checking BNP, will follow trend, consider additional IVF's.
   - Getting outside records, consider urine electrolytes/renal ultrasound
   if off from baseline and does not improve after 4L in ED
   .
   # Elevated LFTs: Unknown baseline, ALT elevated at admission, lipase
   just slightly above normal. Abdomen is large, but soft with bowel
   sounds present.
   - Continue to monitor trend.
   .
   # Borderline bradycardia: Suspect this was secondary to his
   beta-blocker, although baseline HR and EKG unknown, so could also
   represent ischemia. Appears to be stable presently without any heart
   block.
   - Continue to monitoring, holding metoprolol
   .
   #. FEN: NPO currently while intubated. Will give IVF boluses to support
   BP if needed (although may actually need diuresis if BNP returns
   elevated)
   .
   #. PPX:
   -DVT: Already therapeutic on coumadin
   -Bowel regimen as needed
   -PPI while ventilated
   - Sedation with propofol in hope of extubation in near future, tylenol
   level is not elevated on toxicology screen.
   .
   #. ACCESS: Currently with PIV's, placing arterial line for BP and ABG
   monitoring. Should BP fall and pressor support needed, will place
   central line.
   ICU Care
   Nutrition: NPO for now, as extubation is possibility
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Prophylaxis:
   DVT: See above
   Stress ulcer: See above
   VAP:  Chlorhexidine
   Comments:
   Communication:  Comments: Sister [**Name (NI) **] [**Name (NI) 1775**] and Niece [**Name (NI) 2920**] [**Name (NI) 1775**] ([**Telephone/Fax (1) 6394**]
   Code status: Full per family
   Disposition: ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-04 09:09:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2102-2-3**] 11:08 AM
 BRONCHOSCOPY - At [**2102-2-3**] 12:28 PM  with 3+ pmn's, no organisms
 SPUTUM CULTURE - At [**2102-2-3**] 12:28 PM
   echo EF 55%, diltated RV
   CT-A - no PE, right sided pna
   poor urine output, hydrated
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-3**] 10:00 PM
   Vancomycin - [**2102-2-3**] 10:25 PM
   Infusions:
   Other ICU medications:
   Other medications:
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-4**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 66 (59 - 75) bpm
   BP: 126/56(78) {126/56(76) - 126/60(78)} mmHg
   RR: 11 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 69 Inch
             Total In:
                                                                  1,795 mL
                                                                    888 mL
   PO:
             TF:
   IVF:
                                                                  1,795 mL
                                                                    888 mL
   Blood products:
   Total out:
                                                                  1,393 mL
                                                                    480 mL
   Urine:
                                                                  1,393 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    402 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 290 (290 - 470) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.37/68/99.[**Numeric Identifier 508**]/37/10
   Ve: 6.8 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right: 3+, Left: 3+, edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.5 g/dL
   135 K/uL
   107 mg/dL
   1.5 mg/dL
   37 mEq/L
   3.8 mEq/L
   36 mg/dL
   98 mEq/L
   140 mEq/L
   39.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-2**]  09:40 PM
                             [**2102-2-2**]  10:01 PM
                             [**2102-2-3**]  03:49 AM
                             [**2102-2-3**]  06:33 AM
                             [**2102-2-3**]  05:01 PM
                             [**2102-2-3**]  05:14 PM
                             [**2102-2-4**]  04:22 AM
                             [**2102-2-4**]  04:42 AM
   WBC
   6.7
   4.6
   Hct
   42.3
   39.9
   Plt
   154
   135
   Cr
   1.4
   1.4
   1.6
   1.5
   TropT
   0.08
   0.10
   TCO2
   37
   37
   39
   41
   Glucose
   89
   99
   93
   107
   Other labs: PT / PTT / INR:21.0/29.7/2.0, CK / CKMB /
   Troponin-T:15/3/0.10, Differential-Neuts:74.5 %, Lymph:14.0 %, Mono:6.0
   %, Eos:5.1 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) - continue vent support,
   wean O2 as tolerated
   pneumonia - on broad antibiotics, follow cultures
   h/o DVT - continue anticoagulation,
   CRI - at baseline creatinine, follow
   cor pulmonale - likely longstanding related to OSA among other things,
   perhaps exacerbated by acute illness
   poor mental status  at admission - will lighten sedation today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 37 minutes
   Patient is critically ill

2102-02-05 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   24 Hour Events:
   - Nothing growing out on cx
   - Rapid resp viral ag -
   - Continued on pressure support, woke pt up, tried to pull tube
   - back on propofol
   - FiO2 [**2-5**] am was 130's so decreased PEEP from 10 to 8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-4**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-5**] 03:43 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Flowsheet Data as of  [**2102-2-5**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 62 (58 - 74) bpm
   BP: 141/62(90) {121/48(69) - 147/73(101)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 69 Inch
             Total In:
                                                                  1,675 mL
                                                                    226 mL
   PO:
             TF:
   IVF:
                                                                  1,675 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    300 mL
   Urine:
                                                                  2,070 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 392 (280 - 406) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.34/68/137/34/8
   Ve: 6.1 L/min
   PaO2 / FiO2: 343
   Physical Examination
   GENERAL: Male appearing stated age, intubated, sedated, withdrawals to
   noxious stimuli, otherwise does not follow commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   Labs / Radiology
   154 K/uL
   13.3 g/dL
   75 mg/dL
   1.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   25 mg/dL
   102 mEq/L
   143 mEq/L
   40.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2102-2-2**]  09:40 PM
                             [**2102-2-2**]  10:01 PM
                             [**2102-2-3**]  03:49 AM
                             [**2102-2-3**]  06:33 AM
                             [**2102-2-3**]  05:01 PM
                             [**2102-2-3**]  05:14 PM
                             [**2102-2-4**]  04:22 AM
                             [**2102-2-4**]  04:42 AM
                             [**2102-2-5**]  04:12 AM
                             [**2102-2-5**]  04:25 AM
   WBC
   6.7
   4.6
   4.8
   Hct
   42.3
   39.9
   40.7
   Plt
   154
   135
   154
   Cr
   1.4
   1.4
   1.6
   1.5
   1.3
   TropT
   0.08
   0.10
   TCO2
   37
   37
   39
   41
   38
   Glucose
   89
   99
   93
   107
   75
   Other labs: PT / PTT / INR:21.0/29.7/2.0, CK / CKMB /
   Troponin-T:15/3/0.10, Differential-Neuts:74.5 %, Lymph:14.0 %, Mono:6.0
   %, Eos:5.1 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   .
   #. Respiratory distress:  Likely a combination of pt
s Cor Pulmonale
   (likely from Echo w/ RV dilation, and lung dz [**12-19**] lung ca s/p resection
   RLL) and pt likely has Obesity Hypoventilation /syndrome. In this
   setting pt developed a PNA. Evidence for a PNA seen on bronch done on
   [**2-3**] showing purulent secretions in RUL w/ plugging and scattered
   secretions entire R side and normal L side.
   - Pt appears to be hypercarbic at baseline [**12-19**] likely obesity
   hypoventilation syndrome
   - will not diurese currently since w/ Cor pulmonale pt will be preload
   dependent
   - Pt on pressure support of [**8-26**], will increase PEEP to 12 to try to
   decrease Fi02 requirement
   # PNA
 HAP, bronch done on [**2-3**] showing purulent secretions in RUL w/
   plugging and scattered secretions entire R side and normal L side.
   Currently 3+ PMN, w/ no microorganisms seen.
   - continue Vanc/Zosyn day #2
   - f/u sputum cx, blood cx
   #. Altered mental status: Difficult to know if this was simply related
   to hypoxia, or if this was inciting event leading to respiratory
   distress. Head CT negative for acute process. His family does report he
   had been sleeping more over the last few weeks. No clear medications
   that could be contributing (he has been on percocet, has not received
   any benadryl which is a PRN medication for him)
   - Wean propofol, monitor neurologic status
   - Consider additional work-up (eg LP, additional imaging, neurology
   consult) should his mental status not improve
   .
   #. History of DVT: No further interventions planned, INR 2.0
   - restart coumadin today
   .
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
 likely not contributing, defer to outpt.
   # Borderline bradycardia: Suspect this was secondary to his
   beta-blocker, although baseline HR and EKG unknown, so could also
   represent ischemia. Appears to be stable presently without any heart
   block.
   - Continue to monitoring, holding metoprolol
   # Renal insufficiency: baseline 1.4. currently near baseline at 1.5
   #. Hypertension: Holding BP medications given BP is currently 100-110
   systolic.
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   # Elevated LFTs: Unknown baseline, ALT elevated at admission, lipase
   just slightly above normal.
   .
   #. FEN: NPO currently while intubated. Will give IVF boluses to support
   BP if needed (although may actually need diuresis if BNP returns
   elevated)
   .
   #. PPX:
   -DVT: Already therapeutic on coumadin
   -Bowel regimen as needed
   -PPI while ventilated
   - Sedation with propofol in hope of extubation in near future, tylenol
   level is not elevated on toxicology screen.
   .
   #. ACCESS: Currently with PIV's, placing arterial line for BP and ABG
   monitoring. Should BP fall and pressor support needed, will place
   central line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-05 11:09:00 Physician Attending Progress Note
Chief Complaint: pna, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   vent weaned a bit
   woke up when sedation lightened
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-4**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-5**] 10:25 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-5**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 66 (58 - 74) bpm
   BP: 145/59(91) {121/48(69) - 155/73(103)} mmHg
   RR: 19 (6 - 23) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,675 mL
                                                                    388 mL
   PO:
             TF:
   IVF:
                                                                  1,675 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    710 mL
   Urine:
                                                                  2,070 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (280 - 392) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.34/68/137/34/8
   Ve: 6.3 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Sedated,
   Labs / Radiology
   13.3 g/dL
   154 K/uL
   75 mg/dL
   1.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   25 mg/dL
   102 mEq/L
   143 mEq/L
   40.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2102-2-2**]  09:40 PM
                             [**2102-2-2**]  10:01 PM
                             [**2102-2-3**]  03:49 AM
                             [**2102-2-3**]  06:33 AM
                             [**2102-2-3**]  05:01 PM
                             [**2102-2-3**]  05:14 PM
                             [**2102-2-4**]  04:22 AM
                             [**2102-2-4**]  04:42 AM
                             [**2102-2-5**]  04:12 AM
                             [**2102-2-5**]  04:25 AM
   WBC
   6.7
   4.6
   4.8
   Hct
   42.3
   39.9
   40.7
   Plt
   154
   135
   154
   Cr
   1.4
   1.4
   1.6
   1.5
   1.3
   TropT
   0.08
   0.10
   TCO2
   37
   37
   39
   41
   38
   Glucose
   89
   99
   93
   107
   75
   Other labs: PT / PTT / INR:21.0/29.7/2.0, CK / CKMB /
   Troponin-T:15/3/0.10, Differential-Neuts:74.5 %, Lymph:14.0 %, Mono:6.0
   %, Eos:5.1 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR persistent infiltrates
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) - continue vent support,
   increase PS, SBT tomorrow
   pneumonia - on broad antibiotics, follow cultures
   h/o DVT - continue anticoagulation,
   CRI - at baseline creatinine, follow
   cor pulmonale - likely longstanding related to OSA among other things,
   perhaps exacerbated by acute illness
   poor mental status  at admission - woke up with lightened sedation,
   follow
   HTN - restart lopressor
   ICU Care
   Nutrition:
   Comments: TF's
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2102-02-06 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 77 year old male with past medical history of lung
   cancer, DVT, and hypertension who presents with respiratory distress
   and unresponsiveness.
   24 Hour Events:
   - Did not extubate as slightly acidotic, wanted to [**Doctor First Name 6448**] him up with
   increased pressure support to open more alveoli and extubate in AM.
   - started Heparin drip for INR 1.6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-5**] 09:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-6**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,125 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-6**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 58 (55 - 74) bpm
   BP: 140/57(85) {120/49(72) - 165/77(112)} mmHg
   RR: 19 (6 - 21) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,581 mL
                                                                    597 mL
   PO:
             TF:
                                                                    266 mL
                                                                    224 mL
   IVF:
                                                                  1,195 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    370 mL
   Urine:
                                                                  1,810 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -229 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (325 - 395) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.35/66/91/37/7
   Ve: 7.4 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   13.2 g/dL
   96 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   142 mEq/L
   41.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2102-2-3**]  06:33 AM
                             [**2102-2-3**]  05:01 PM
                             [**2102-2-3**]  05:14 PM
                             [**2102-2-4**]  04:22 AM
                             [**2102-2-4**]  04:42 AM
                             [**2102-2-5**]  04:12 AM
                             [**2102-2-5**]  04:25 AM
                             [**2102-2-5**]  03:28 PM
                             [**2102-2-6**]  05:38 AM
                             [**2102-2-6**]  06:07 AM
   WBC
   4.6
   4.8
   3.9
   Hct
   39.9
   40.7
   41.0
   Plt
   135
   154
   162
   Cr
   1.6
   1.5
   1.3
   1.1
   TCO2
   37
   39
   41
   38
   35
   38
   Glucose
   107
   75
   96
   Other labs: PT / PTT / INR:18.9/65.1/1.8, CK / CKMB /
   Troponin-T:15/3/0.10, Differential-Neuts:74.5 %, Lymph:14.0 %, Mono:6.0
   %, Eos:5.1 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   .
   #. Respiratory distress:  Likely a combination of
   Cor Pulmonale (likely from Echo w/ RV dilation, and lung dz [**12-19**] lung ca
   s/p resection RLL)
   Obesity Hypoventilation syndrome (appears to be hypercarbic at baseline
   [**12-19**] likely obesity hypoventilation syndrome)
   PNA (bronch [**2-3**] with purulent secretions in RUL w/ plugging and
   scattered secretions entire R side and normal L ).
   - Pt tolerated SBT well, will extubate today
   # PNA
 HAP, bronch done on [**2-3**] showing purulent secretions in RUL w/
   plugging and scattered secretions entire R side and normal L side.
   Bronch and sputum cultures with polys but no microorganisms seen. MRSA
   screen positive.
   - continue Vanc/Zosyn day #4/ 10
   - f/u sputum cx, blood cx
   # Hypervolemia- will try lasix 20 IV x1, goal neg 1L
   #. Altered mental status: Likely due to pulmonary process initially as
   pt able to wake up when propofol weaned off.
   - d/c
d propofol, will evaluate mental status, but currently looks as
   if will recover well, no further work up need for now
   .
   #. History of DVT: Continue coumadin, INR 1.6
 continue coumadin at
   current dose since pt did not receive for a couple days
   - continue heparin gtt
   .
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
 likely not contributing, defer to outpt.
   #. Hypertension: Restarting Metoprolol with careful watching for
   bradycardia.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   #. Hypothyroidism: continue levothyroxine
   #. FEN: tube feeds held overnight for possible extubation, oral diet
   afterward
   .
   #. PPX:
   - DVT: coumadin
   - Bowel regimen as needed
   - PPI
   .
   #. ACCESS: PIV and A line
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-5**] 12:15 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-07 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 77 year old male with past medical
   history of lung cancer, DVT, and hypertension who presents with
   respiratory distress and unresponsiveness.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-2-6**] 02:31 PM
 INVASIVE VENTILATION - START [**2102-2-6**] 10:57 PM
   - Extubated then reintubated (Cpap, hypoxia, lasix) 9pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-6**] 08:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-7**] 06:06 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-7**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 64 (64 - 77) bpm
   BP: 106/47(66) {106/47(65) - 168/76(111)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,193 mL
                                                                    465 mL
   PO:
             TF:
                                                                      1 mL
   IVF:
                                                                  1,072 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                    170 mL
   Urine:
                                                                  3,110 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,917 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 435 (273 - 549) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI: 62
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   SpO2: 95%
   ABG: 7.49/46/78.[**Numeric Identifier 181**]/33/10
   Ve: 7.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GENERAL: Male appearing stated age, intubated, sedated, withdrawals to
   noxious stimuli, otherwise does not follow commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   Labs / Radiology
   166 K/uL
   13.0 g/dL
   88 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.9 mEq/L
   17 mg/dL
   103 mEq/L
   147 mEq/L
   40.2 %
   6.0 K/uL
        [image002.jpg]
                             [**2102-2-6**]  06:07 AM
                             [**2102-2-6**]  09:40 AM
                             [**2102-2-6**]  12:39 PM
                             [**2102-2-6**]  03:08 PM
                             [**2102-2-6**]  03:33 PM
                             [**2102-2-6**]  07:29 PM
                             [**2102-2-6**]  09:54 PM
                             [**2102-2-6**]  11:22 PM
                             [**2102-2-7**]  04:09 AM
                             [**2102-2-7**]  04:27 AM
   WBC
   6.0
   Hct
   40.2
   Plt
   166
   Cr
   1.1
   1.0
   TCO2
   38
   25
   39
   40
   39
   38
   36
   36
   Glucose
   92
   88
   Other labs: PT / PTT / INR:21.8/95.6/2.1, CK / CKMB /
   Troponin-T:15/3/0.10, Differential-Neuts:74.5 %, Lymph:14.0 %, Mono:6.0
   %, Eos:5.1 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Imaging: [**2-3**] ECHO
   There is mild symmetric left ventricular hypertrophy with normal cavity
   size and global systolic function (LVEF>55%). Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. The right ventricular cavity is dilated with moderate global
   free wall hypokinesis. The aortic valve leaflets appear structurally
   normal with good leaflet excursion. There is no aortic valve stenosis.
   No aortic regurgitation is seen. The mitral valve appears grossly
   normal with trivial mitral regurgitation. The pulmonary artery systolic
   pressure could not be determined. There is no pericardial effusion.
   IMPRESSION: Suboptimal image quality. Mild symmetric left ventricular
   hypertrophy with preserved global systolic function. Right ventricular
   cavity enlargement with free wall hypokines. These findings are
   suggestive of a primary pulmonary process.
   Assessment and Plan
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   #. Respiratory distress:  Did not tolerate extubation yesterday
   secondary to inability to clear secretions
   - Scopolamine patch for secretions
   - Change AC to PS as we are over-ventilating and pt had tolerated PSV
   before extubation yesterday
   # PNA
 HAP, bronch done on [**2-3**] showing purulent secretions in RUL w/
   plugging and scattered secretions entire R side and normal L side.
   Bronch and sputum cultures with polys but no microorganisms seen. MRSA
   screen positive.
   - continue Vanc/Zosyn day #5/ 10
   - f/u sputum cx, blood cx
   # Hypervolemia- will try lasix 20 IV x1, goal neg 1L
   #. Altered mental status: Likely due to pulmonary process initially as
   pt able to wake up when propofol weaned off.
   - minimize propofol
   #. History of DVT: Continue coumadin, INR 1.6
 continue coumadin at
   current dose since pt did not receive for a couple days
   - continue heparin gtt
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
 likely not contributing, defer to outpt.
   #. Hypertension: Restarting Metoprolol with careful watching for
   bradycardia.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   #. Hypothyroidism: continue levothyroxine
   #. FEN: tube feeds held overnight for possible extubation, oral diet
   afterward
   #. PPX:
   - DVT: coumadin
   - Bowel regimen as needed
   - PPI
   #. ACCESS: PIV and A line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   22 Gauge - [**2102-2-6**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-08 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 77 year old male with past medical
   history of lung cancer, DVT, and hypertension who presents with
   respiratory distress and unresponsiveness.
   24 Hour Events:
 URINE CULTURE - At [**2102-2-7**] 08:42 PM
   - Adjusted vent settings
   - Started TF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-7**] 08:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-8**] 05:20 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-8**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 58 (58 - 78) bpm
   BP: 152/67(97) {102/48(66) - 159/75(106)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,514 mL
                                                                    580 mL
   PO:
             TF:
                                                                    195 mL
                                                                    205 mL
   IVF:
                                                                  1,320 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                    978 mL
                                                                    190 mL
   Urine:
                                                                    978 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    536 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/55/156/37/12
   Ve: 7.1 L/min
   PaO2 / FiO2: 312
   Physical Examination
   GENERAL: Male appearing stated age, intubated, sedated, withdrawals to
   noxious stimuli, otherwise does not follow commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   .
   Labs / Radiology
   156 K/uL
   12.5 g/dL
   110 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.2 mEq/L
   17 mg/dL
   98 mEq/L
   139 mEq/L
   37.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-6**]  03:33 PM
                             [**2102-2-6**]  07:29 PM
                             [**2102-2-6**]  09:54 PM
                             [**2102-2-6**]  11:22 PM
                             [**2102-2-7**]  04:09 AM
                             [**2102-2-7**]  04:27 AM
                             [**2102-2-7**]  07:36 PM
                             [**2102-2-7**]  08:14 PM
                             [**2102-2-8**]  06:02 AM
                             [**2102-2-8**]  06:23 AM
   WBC
   6.0
   4.6
   Hct
   40.2
   37.8
   Plt
   166
   156
   Cr
   1.0
   1.1
   1.1
   TCO2
   40
   39
   38
   36
   36
   39
   39
   Glucose
   88
   95
   110
   Other labs: PT / PTT / INR:17.6/86.9/1.6, CK / CKMB /
   Troponin-T:15/3/0.10, Amylase / Lipase:52/27, Differential-Neuts:74.5
   %, Lymph:14.0 %, Mono:6.0 %, Eos:5.1 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   #. Respiratory distress:  Did not tolerate extubation yesterday
   secondary to inability to clear secretions
   - Scopolamine patch for secretions
   - Change AC to PS as we are over-ventilating and pt had tolerated PSV
   before extubation yesterday
   # PNA
 HAP, bronch done on [**2-3**] showing purulent secretions in RUL w/
   plugging and scattered secretions entire R side and normal L side.
   Bronch and sputum cultures with polys but no microorganisms seen. MRSA
   screen positive.
   - continue Vanc/Zosyn day #5/ 10
   - f/u sputum cx, blood cx
   # Hypervolemia- will try lasix 20 IV x1, goal neg 1L
   #. Altered mental status: Likely due to pulmonary process initially as
   pt able to wake up when propofol weaned off.
   - minimize propofol
   #. History of DVT: Continue coumadin, INR 1.6
 continue coumadin at
   current dose since pt did not receive for a couple days
   - continue heparin gtt
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
 likely not contributing, defer to outpt.
   #. Hypertension: Restarting Metoprolol with careful watching for
   bradycardia.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   #. Hypothyroidism: continue levothyroxine
   #. FEN: tube feeds held overnight for possible extubation, oral diet
   afterward
   #. PPX:
   - DVT: coumadin
   - Bowel regimen as needed
   - PPI
    #. ACCESS: PIV and A line
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-7**] 02:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   22 Gauge - [**2102-2-6**] 05:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-08 10:59:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2102-2-7**] 08:42 PM
   Positive fluid balance over the past 24 hours
   Continues intubated
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-8**] 05:20 AM
   Vancomycin - [**2102-2-8**] 08:48 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-8**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 65 (56 - 78) bpm
   BP: 162/70(102) {102/48(66) - 167/81(112)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,514 mL
                                                                    955 mL
   PO:
             TF:
                                                                    195 mL
                                                                    305 mL
   IVF:
                                                                  1,320 mL
                                                                    649 mL
   Blood products:
   Total out:
                                                                    978 mL
                                                                    490 mL
   Urine:
                                                                    978 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    536 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.45/55/156/37/12
   Ve: 7.1 L/min
   PaO2 / FiO2: 312
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : dependent)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.5 g/dL
   156 K/uL
   110 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.2 mEq/L
   17 mg/dL
   98 mEq/L
   139 mEq/L
   37.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-6**]  03:33 PM
                             [**2102-2-6**]  07:29 PM
                             [**2102-2-6**]  09:54 PM
                             [**2102-2-6**]  11:22 PM
                             [**2102-2-7**]  04:09 AM
                             [**2102-2-7**]  04:27 AM
                             [**2102-2-7**]  07:36 PM
                             [**2102-2-7**]  08:14 PM
                             [**2102-2-8**]  06:02 AM
                             [**2102-2-8**]  06:23 AM
   WBC
   6.0
   4.6
   Hct
   40.2
   37.8
   Plt
   166
   156
   Cr
   1.0
   1.1
   1.1
   TCO2
   40
   39
   38
   36
   36
   39
   39
   Glucose
   88
   95
   110
   Other labs: PT / PTT / INR:17.6/86.9/1.6, CK / CKMB /
   Troponin-T:15/3/0.10, Amylase / Lipase:52/27, Differential-Neuts:74.5
   %, Lymph:14.0 %, Mono:6.0 %, Eos:5.1 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  Subtherapeutic on
   [**Last Name (LF) 6526**], [**First Name3 (LF) **] restart IV heparin.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) ON CHRONIC:  Continues abx
   for PNA.  Secretions for the ETT modest and thin, still has been having
   a large amount of oropharyngeal secretions.  On a scopolamine patch.
   Plan for Chest CT with IV contrast given history of lung malignancy.
   Cytology for bronchial washings negative.
 RENAL FAILURE: Cr has stablized at 1.1.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2102-2-2**] 08:44 PM
   Arterial Line - [**2102-2-2**] 11:30 PM
   22 Gauge - [**2102-2-6**] 05:57 PM
   Comments: PICC line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2102-02-09 11:51:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   Respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2102-2-8**] 04:00 PM
   Head CT:  no air as seen on prior study, no new acute process
   Zosyn dosing adjusted in light of renal function
   Didn't tolerate trial of PSV 16
   Patient unable to provide history: Sedated, ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-9**] 12:21 AM
   Vancomycin - [**2102-2-9**] 07:49 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Heparin Sodium - [**2102-2-9**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: ETT
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-9**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 60 (52 - 69) bpm
   BP: 134/62(88) {111/49(68) - 163/74(108)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,255 mL
                                                                  1,445 mL
   PO:
             TF:
                                                                    860 mL
                                                                    500 mL
   IVF:
                                                                  1,396 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                  1,383 mL
   Urine:
                                                                  2,990 mL
                                                                  1,383 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.44/53/125/35/10
   Ve: 6.4 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   159 K/uL
   109 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.1 mEq/L
   16 mg/dL
   102 mEq/L
   143 mEq/L
   37.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2102-2-6**]  11:22 PM
                             [**2102-2-7**]  04:09 AM
                             [**2102-2-7**]  04:27 AM
                             [**2102-2-7**]  07:36 PM
                             [**2102-2-7**]  08:14 PM
                             [**2102-2-8**]  06:02 AM
                             [**2102-2-8**]  06:23 AM
                             [**2102-2-9**]  04:42 AM
                             [**2102-2-9**]  04:45 AM
                             [**2102-2-9**]  05:36 AM
   WBC
   6.0
   4.6
   3.9
   Hct
   40.2
   37.8
   37.7
   Plt
   166
   156
   159
   Cr
   1.0
   1.1
   1.1
   0.9
   TCO2
   36
   36
   39
   39
   39
   37
   Glucose
   88
   95
   110
   109
   Other labs: PT / PTT / INR:18.3/83.7/1.7, CK / CKMB /
   Troponin-T:15/3/0.10, Amylase / Lipase:52/27, Differential-Neuts:74.5
   %, Lymph:14.0 %, Mono:6.0 %, Eos:5.1 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.1 g/dL, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  Continues on
   heparin drip given subtherapeutic PT on coumadin.
 RESPIRATORY FAILURE, ACUTE secondary to pneumonia.  CXR improved.
   Very sedated on porpofol this morning, will decrease and reassess
   mental status.  Day #7 vanco/zosyn.  Still with moderate oral
   secretions on scopolamine patch.  Still now gag.  Continue to gently
   diurese.  His mental status is main limiting factor as well as upper
   airway secretions, lack of gag reflex.  Will lighten up sedation and
   reassess neurologically.
 ALTERED MENTAL STATUS:  Repeat head CT not revealing. TSH/T4 most
   suggestive of sick euthyroid, on replacement.  Plan for neuro
   evaluation.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-9**] 10:20 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   22 Gauge - [**2102-2-6**] 05:57 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, IV heparin)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2102-02-09 14:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 77 year old male with past medical
   history of lung cancer, DVT, and hypertension who presents with
   respiratory distress and unresponsiveness.
   24 Hour Events:
 PICC LINE - START [**2102-2-8**] 04:00 PM
   - PICC placed
   - diuresed
   - Zosyn dose increased based on improved renal function
   - heparin drip restarted for subtherapeutic INR (dont know why dropped
   as no change in dose or other meds)
   - got CT head to eval for previously mentioned venous air on CT scan.
   - Pt was transitioned to pressure support overnight but did not
   tolerate and is back on AC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-9**] 07:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-9**] 11:58 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Heparin Sodium - [**2102-2-9**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-9**] 02:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 60 (44 - 69) bpm
   BP: 145/66(96) {66/35(46) - 179/86(118)} mmHg
   RR: 16 (2 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,255 mL
                                                                  2,824 mL
   PO:
             TF:
                                                                    860 mL
                                                                    636 mL
   IVF:
                                                                  1,396 mL
                                                                  2,149 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                  1,473 mL
   Urine:
                                                                  2,990 mL
                                                                  1,473 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                  1,351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   PS : 16 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.44/51/73.[**Numeric Identifier 218**]/34/8
   Ve: 7 L/min
   PaO2 / FiO2: 146
   Physical Examination
   GENERAL: Male appearing stated age, intubated, sedated, withdrawals to
   noxious stimuli, otherwise does not follow commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   Labs / Radiology
   140 K/uL
   11.5 g/dL
   109 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.1 mEq/L
   16 mg/dL
   98 mEq/L
   134 mEq/L
   35.3 %
   3.5 K/uL
        [image002.jpg]
                             [**2102-2-7**]  04:27 AM
                             [**2102-2-7**]  07:36 PM
                             [**2102-2-7**]  08:14 PM
                             [**2102-2-8**]  06:02 AM
                             [**2102-2-8**]  06:23 AM
                             [**2102-2-9**]  04:42 AM
                             [**2102-2-9**]  04:45 AM
                             [**2102-2-9**]  05:36 AM
                             [**2102-2-9**]  01:13 PM
                             [**2102-2-9**]  01:20 PM
   WBC
   4.6
   3.9
   3.5
   Hct
   37.8
   37.7
   35.3
   Plt
   156
   159
   140
   Cr
   1.1
   1.1
   0.9
   1.0
   TCO2
   36
   39
   39
   39
   37
   36
   Glucose
   95
   110
   109
   109
   Other labs: PT / PTT / INR:18.3/83.7/1.7, CK / CKMB /
   Troponin-T:62/3/0.10, Amylase / Lipase:52/27, Differential-Neuts:74.5
   %, Lymph:14.0 %, Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.1 g/dL, Ca++:12.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   #. Respiratory failure:  Known HAP based on [**2-3**] bronch (purulent
   secretions in RUL w/ plugging and scattered secretions entire R side
   and normal L side) . Bronch and sputum cultures with polys but no
   microorganisms seen. MRSA screen positive. Failed [**2-5**] extubation
   attempt due to oral secretions
   - Scopolamine patch for secretions
   - wean vent prn
   - continue Vanc/Zosyn day #7/ 10
   - consider repeat CT chest to eval for recurrent malignancy
   contributing to resp failure, however bronch cytology neg, already had
   CTA on this admission
   # AMS- intially after extubation pt conversing well, but pt did not
   have gag reflex. This may be due to prolonged intubation vs. CN defect.
   Pt had air on CT scan suggesting air embolus, now w/ new CT not showing
   this nor any infarcted area from an air embolus. Sz possible. Infection
   not worsening. Electrolytes stable not likely contributing.
   - wean propofol
   - recheck UA
   - check LFTs
   - recheck TSH
   - will consult Neuro
   #. Right heart failure: Etiology OSA vs PE vs malignancy related
   - CTA without PE
   #. Hypervolemia- continue diuresis, will be cautious to decrease
   preload too much from likely pulm HTN and being preload dept- - lasix
   20 IV x1 today, goal negative 1L
   #. History of DVT: Continue coumadin, INR 1.6
   - will increase coumadin to 5mg if pt not getting another source of
   vit. K
 will investigate
   - continue heparin gtt
   #. Hypothyroidism: sick euthyroid. continue levothyroxine
   - rechecking TSH for AMS
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
   - Concerning for contribution to resp failure given no improvement
   #. Hypertension: Continue metoprolol, watching for bradycardia.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   #. FEN: continuing TF
   #. PPX:
   - DVT: coumadin and hep drip
   - Bowel regimen as needed
   - PPI
    #. ACCESS: PIV and A line
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-9**] 10:20 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   22 Gauge - [**2102-2-6**] 05:57 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2102-02-10 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 77 year old male with past medical
   history of lung cancer, DVT, and hypertension who presents with
   respiratory distress and unresponsiveness.
   24 Hour Events:
 EKG - At [**2102-2-9**] 01:26 PM
   - At noon- pt became brady 50, BP 60 after recently adjusting ET tube.
   Pt given 1L IVF, started on levophed for 5min - MAP recovered quickly.
   CXR same, CE neg. ABG stable 7.44/51/73.
   - Neuro consulted for AMS, but pt became very alert and conversing when
   neuro evaluated (????), will moniter, if continues to flucuate will
   consider EEG
   - Pt getting 18.7mcg Vit K (23% DRV) - increased coumadin to 5mg
   - final CT read - no air in venous system
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-9**] 08:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-10**] 05:38 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2102-2-9**] 04:58 PM
   Pantoprazole (Protonix) - [**2102-2-9**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-10**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 57 (44 - 66) bpm
   BP: 148/57(89) {66/35(46) - 179/86(191)} mmHg
   RR: 13 (2 - 23) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 105.1 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  4,432 mL
                                                                    848 mL
   PO:
             TF:
                                                                  1,458 mL
                                                                    368 mL
   IVF:
                                                                  2,854 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  2,953 mL
                                                                    580 mL
   Urine:
                                                                  2,953 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,479 mL
                                                                    268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   PS : 16 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.42/52/104/34/7
   Ve: 7 L/min
   PaO2 / FiO2: 208
   Physical Examination
   GENERAL: Male appearing stated age, intubated, sedated, withdrawals to
   noxious stimuli, otherwise does not follow commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   Labs / Radiology
   170 K/uL
   11.8 g/dL
   114 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.7 mEq/L
   14 mg/dL
   102 mEq/L
   142 mEq/L
   36.0 %
   4.0 K/uL
        [image002.jpg]
                             [**2102-2-7**]  08:14 PM
                             [**2102-2-8**]  06:02 AM
                             [**2102-2-8**]  06:23 AM
                             [**2102-2-9**]  04:42 AM
                             [**2102-2-9**]  04:45 AM
                             [**2102-2-9**]  05:36 AM
                             [**2102-2-9**]  01:13 PM
                             [**2102-2-9**]  01:20 PM
                             [**2102-2-9**]  07:41 PM
                             [**2102-2-10**]  04:53 AM
   WBC
   4.6
   3.9
   3.5
   4.0
   Hct
   37.8
   37.7
   35.3
   36.0
   Plt
   156
   159
   140
   170
   Cr
   1.1
   0.9
   1.0
   1.0
   TropT
   0.04
   TCO2
   39
   39
   39
   37
   36
   35
   Glucose
   110
   109
   109
   114
   Other labs: PT / PTT / INR:18.8/89.5/1.7, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging:
   NON-CONTRAST HEAD CT: There is no evidence of hemorrhage and no change
   from
   six days prior. Again there are pronounced periventricular
   hypodensities
   likely reflecting chronic microvascular ischemic disease. The
   ventricles and
   sulci are normal in size and configuration. Hyperdense soft tissue
   changes
   overlying the left greater than right occiput are slightly more
   prominent than
   prior exam, consistent with small subcutaneous hematomas. There is new
   moderate opacification within the right sphenoid sinus and persistent
   oropharyngeal secretions. Previously seen tubular lucencies within the
   right
   pterygoid muscles and venous structures have resolved.
   IMPRESSION:
   1. No acute intracranial process including no evidence of hemorrhage.
   2. Resolution of previously seen air within the venous system.
   Assessment and Plan
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   #. Respiratory failure:  Known HAP based on [**2-3**] bronch (purulent
   secretions in RUL w/ plugging and scattered secretions entire R side
   and normal L side) . Bronch and sputum cultures with polys but no
   microorganisms seen. MRSA screen positive. Failed [**2-5**] extubation
   attempt due to oral secretions
   - Scopolamine patch for secretions
   - wean vent prn
   - continue Vanc/Zosyn day #7/ 10
   - consider repeat CT chest to eval for recurrent malignancy
   contributing to resp failure, however bronch cytology neg, already had
   CTA on this admission
   # AMS- intially after extubation pt conversing well, but pt did not
   have gag reflex. This may be due to prolonged intubation vs. CN defect.
   Pt had air on CT scan suggesting air embolus, now w/ new CT not showing
   this nor any infarcted area from an air embolus. Sz possible. Infection
   not worsening. Electrolytes stable not likely contributing.
   - wean propofol
   - recheck UA
   - check LFTs
   - recheck TSH
   - will consult Neuro
   #. Right heart failure: Etiology OSA vs PE vs malignancy related
   - CTA without PE
   #. Hypervolemia- continue diuresis, will be cautious to decrease
   preload too much from likely pulm HTN and being preload dept- - lasix
   20 IV x1 today, goal negative 1L
   #. History of DVT: Continue coumadin, INR 1.6
   - will increase coumadin to 5mg if pt not getting another source of
   vit. K
 will investigate
   - continue heparin gtt
   #. Hypothyroidism: sick euthyroid. continue levothyroxine
   - rechecking TSH for AMS
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
   - Concerning for contribution to resp failure given no improvement
   #. Hypertension: Continue metoprolol, watching for bradycardia.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   #. FEN: continuing TF
   #. PPX:
   - DVT: coumadin and hep drip
   - Bowel regimen as needed
   - PPI
    #. ACCESS: PIV and A line
   [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-9**] 11:38 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2102-02-10 12:10:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2102-2-9**] 01:26 PM
   No further episodes of bradycardia/hypotension
   Head CT, noncontrast:  No air in the venous system, no new acute
   process
   On PSV
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-10**] 05:38 AM
   Vancomycin - [**2102-2-10**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2102-2-9**] 04:58 PM
   Pantoprazole (Protonix) - [**2102-2-9**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-10**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 61 (44 - 66) bpm
   BP: 162/66(102) {66/35(46) - 179/86(191)} mmHg
   RR: 11 (2 - 23) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  4,432 mL
                                                                  1,914 mL
   PO:
             TF:
                                                                  1,458 mL
                                                                    482 mL
   IVF:
                                                                  2,854 mL
                                                                  1,342 mL
   Blood products:
   Total out:
                                                                  2,953 mL
                                                                  1,120 mL
   Urine:
                                                                  2,953 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,479 mL
                                                                    794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   PS : 16 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.42/52/104/34/7
   Ve: 6.8 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles :
   dependently, minimal)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   170 K/uL
   114 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.7 mEq/L
   14 mg/dL
   102 mEq/L
   142 mEq/L
   36.0 %
   4.0 K/uL
        [image002.jpg]
                             [**2102-2-7**]  08:14 PM
                             [**2102-2-8**]  06:02 AM
                             [**2102-2-8**]  06:23 AM
                             [**2102-2-9**]  04:42 AM
                             [**2102-2-9**]  04:45 AM
                             [**2102-2-9**]  05:36 AM
                             [**2102-2-9**]  01:13 PM
                             [**2102-2-9**]  01:20 PM
                             [**2102-2-9**]  07:41 PM
                             [**2102-2-10**]  04:53 AM
   WBC
   4.6
   3.9
   3.5
   4.0
   Hct
   37.8
   37.7
   35.3
   36.0
   Plt
   156
   159
   140
   170
   Cr
   1.1
   0.9
   1.0
   1.0
   TropT
   0.04
   TCO2
   39
   39
   39
   37
   36
   35
   Glucose
   110
   109
   109
   114
   Other labs: PT / PTT / INR:18.8/89.5/1.7, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY:  Coumadin increased,
   on tube feeds with vit K. Follow PT.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  More awake this morning,
   has a cough and gag albeit somewhat weak.  Try back on PSV.  Still with
   oral secretions, renew scopolamine patch. Completing abx course for
 TACHY/BRADY ARRHYTHMIAS:  Not clear why this gentleman has
   intermittent decreased responsiveness.  Raises concern that he may be
   intermittently hypotensive in setting or arrhythmias,lacunar infarcts.
   Check ECG.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-11 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   24 Hour Events:
   - On PSV for most of day, back on AC overnight
   - Cardiology service saw pt, rec changing BB to half dose. (from 12.5
   mg [**Hospital1 **] to 6.25mg [**Hospital1 **])
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-10**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-11**] 06:31 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Propofol - 30 mcg/Kg/min
   Flowsheet Data as of  [**2102-2-11**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.4
   HR: 54 (53 - 71) bpm
   BP: 126/51(73) {126/51(73) - 174/89(121)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  3,695 mL
                                                                    899 mL
   PO:
             TF:
                                                                  1,214 mL
                                                                    354 mL
   IVF:
                                                                  2,241 mL
                                                                    515 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                    610 mL
   Urine:
                                                                  2,610 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,085 mL
                                                                    289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 316 (316 - 460) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 7 L/min
   Physical Examination
   GENERAL: Male appearing stated age, intubated, sedated, withdrawals to
   noxious stimuli, otherwise does not follow commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   Labs / Radiology
   164 K/uL
   11.8 g/dL
   112 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   142 mEq/L
   36.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2102-2-8**]  06:02 AM
                             [**2102-2-8**]  06:23 AM
                             [**2102-2-9**]  04:42 AM
                             [**2102-2-9**]  04:45 AM
                             [**2102-2-9**]  05:36 AM
                             [**2102-2-9**]  01:13 PM
                             [**2102-2-9**]  01:20 PM
                             [**2102-2-9**]  07:41 PM
                             [**2102-2-10**]  04:53 AM
                             [**2102-2-11**]  03:31 AM
   WBC
   4.6
   3.9
   3.5
   4.0
   3.9
   Hct
   37.8
   37.7
   35.3
   36.0
   36.2
   Plt
   156
   159
   140
   170
   164
   Cr
   1.1
   0.9
   1.0
   1.0
   0.9
   TropT
   0.04
   TCO2
   39
   39
   37
   36
   35
   Glucose
   110
   109
   109
   114
   112
   Other labs: PT / PTT / INR:18.8/80.3/1.7, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   #. Respiratory failure:  Known HAP based on [**2-3**] bronch (purulent
   secretions in RUL w/ plugging and scattered secretions entire R side
   and normal L side) . Bronch and sputum cultures with polys but yeast
   and no microorganisms seen. MRSA screen positive. Failed [**2-5**]
   extubation attempt due to oral secretions. Will likely need trach given
   AMS and secretions. CTA without PE of evidence of recurrent malignancy.
   - Scopolamine patch for secretions
   - wean pressure support and check ABG
   - last day vanco/zosyn
   # AMS- Resolved when neuro saw pt. Likely waxing and [**Doctor Last Name 533**], secondary
   to pneumonia vs hypoperfusion in setting of bradycardia in setting of
   poor reserve due to chronic microvascular ischemia.
   - F/u neuro recs
   #. Hypervolemia- continue diuresis, will be cautious to decrease
   preload too much from likely pulm HTN and being preload dept- - lasix
   20 IV x1 today, goal negative 1L
   #. History of DVT: Holding anticoagulation given plan for trach and
   hematuria
   #. Hematuria: With clots requiring replacement of foley with triple
   lumen for CBI. No known trauma or supratherapeutic anticoagulation. ?
   stone
   - check UA, UCx, cytology
   - hold anticoagulation and give Vit K
   - recheck Hct and consider blood/FFP if continues to bleed.
   - CBI x 24 hrs
   - urology curbsided, outpt followup.
   #. Hypothyroidism: sick euthyroid. continue levothyroxine
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
   - Concerning for contribution to resp failure given no improvement
   #. Hypertension: Continue metoprolol at lower dose, watching for
   bradycardia.  Consider hydralazine or captopril if bradycardic but
   hypertensive.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-11**] 05:07 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: hep and coumadin
   Stress ulcer: PPI
   Code status: Full code
   Disposition:

2102-02-12 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 77 year old male with past medical
   history of lung cancer, DVT, and hypertension who presents with
   respiratory distress and unresponsiveness.
   24 Hour Events:
   - Hematuria in AM with clots obstructing foley. Replaced with triple
   lumen, started CBI. Stopped Heparin and Coumadin (neither were
   supratherapeutic). Urology came by but no official consult as was
   clearing up by then. Will need outpt followup. Hct dropped 3 points
   37->34.
   - Weaned vent to PS
   - family meeting agreed to trach/peg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-11**] 07:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-11**] 12:00 PM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Flowsheet Data as of  [**2102-2-12**] 07:51 AM
   Vital signs
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 70 (58 - 84) bpm
   BP: 111/47(67) {95/42(58) - 206/92(140)} mmHg
   RR: 13 (12 - 33) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
                Total In:
                                                                  2,789 mL
                                                                    564 mL
   PO:
                TF:
                                                                  1,205 mL
                                                                    393 mL
   IVF:
                                                                  1,234 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  4,660 mL
                                                                    225 mL
   Urine:
                                                                  4,660 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,871 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (335 - 471) mL
   PS : 12 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.37/59/129/34/7
   Ve: 6.5 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GENERAL: Male appearing stated age, intubated, awake and responds
   appropriately. Follows commands
   HEENT: Normocephalic, atraumatic. Papules with crust over chin, face,
   mild erythema. No conjunctival pallor, mild injection. No scleral
   icterus. MMM. OP clear.
   Neck Supple, No LAD, No thyromegaly. Difficult to appreciate JVP due to
   body habitus.
   CARDIAC: Bradycardic, regular, no apparent murmurs or gallops. Normal
   S1, S2.
   LUNGS: CTAB anteriorly with transmitted upper airway sounds, good air
   movement biaterally.
   ABDOMEN: Slightly distended, soft, no clear fluid wave, +BS. Cannot
   appreciate liver edge or spleen
   EXTREMITIES: 3 to 4+ pitting edema up to thighs. No asymmetry.
   Scattered excoriations. No cyanosis or clubbing
   SKIN: Lesions on face as noted, excoriations over legs.
   NEURO: Intubated, normal tone, grimances to noxious stimuli.
   Labs / Radiology
   171 K/uL
   9.9 g/dL
   113 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.3 mEq/L
   20 mg/dL
   103 mEq/L
   140 mEq/L
   31.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-9**]  01:20 PM
                             [**2102-2-9**]  07:41 PM
                             [**2102-2-10**]  04:53 AM
                             [**2102-2-11**]  03:31 AM
                             [**2102-2-11**]  09:34 AM
                             [**2102-2-11**]  10:18 AM
                             [**2102-2-11**]  11:34 AM
                             [**2102-2-11**]  03:32 PM
                             [**2102-2-11**]  03:41 PM
                             [**2102-2-12**]  05:07 AM
   WBC
   4.0
   3.9
   5.4
   4.6
   Hct
   36.0
   36.2
   37.8
   37.4
   34.1
   31.7
   Plt
   170
   164
   171
   171
   Cr
   1.0
   0.9
   0.9
   TCO2
   36
   35
   35
   35
   Glucose
   114
   112
   113
   Other labs: PT / PTT / INR:14.8/25.0/1.3, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   #. Respiratory failure:  Known HAP based on [**2-3**] bronch (purulent
   secretions in RUL w/ plugging and scattered secretions entire R side
   and normal L side) . Bronch and sputum cultures with polys but yeast
   and no microorganisms seen. MRSA screen positive. Failed [**2-5**]
   extubation attempt due to oral secretions, AMS and lack of gag. CTA
   without PE of evidence of recurrent malignancy.  Family agrees to trach
   if necessary but seems to have improved MS with change in sedation from
   propofol to versed and fentanyl.
   - Scopolamine patch for secretions
   - tolerating pressure support well.
   - finished course of antibiotics.
   - lack of gag concerning for potential extubation, but given no other
   neuro deficits, likely due to med or ETT effects
   - plan to wean pressure support today, SBP and ABG in AM and
   potentially extubate if all goes well
   - hold TF after midnight
   - if becomes agitated due to resp status, will increase pressure
   support prior to reverting to AC
   # AMS- Resolved when neuro saw pt. Likely waxing and [**Doctor Last Name 533**], secondary
   to pneumonia vs hypoperfusion in setting of bradycardia in setting of
   poor reserve due to chronic microvascular ischemia.
   - F/u neuro recs
   #. Hypervolemia- continue diuresis, will be cautious to decrease
   preload too much from likely pulm HTN and being preload dept- - lasix
   20 IV x1 today, goal negative 1L
   #. History of DVT: Holding anticoagulation given plan for trach and
   hematuria
   #. Hematuria: Now improved after CBI. Initially with clots requiring
   replacement of foley with triple lumen for CBI. No known trauma or
   supratherapeutic anticoagulation. Anticoagulation held, given K.
   - check UA, UCx, cytology
   - [**Hospital1 7**] Hct check as has dropped 6 points with this bleeding.
   - CBI stopped
   - urology curbsided, outpt followup.
   #. Hypothyroidism: sick euthyroid. continue levothyroxine
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
   - Concerning for contribution to resp failure given no improvement
   #. Hypertension: Continue metoprolol at lower dose, watching for
   bradycardia.  Consider hydralazine or captopril if bradycardic but
   hypertensive.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-12**] 12:57 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:  anticoagulation held, pneumoboots, PPI
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined Mr [**Known lastname 6393**], and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He has cleared hematuria with CBI and hct has been stable as has INR.
   he is more responsive on versed/ fentanyl infusions. he has less oral
   secretions too.
   Exam notable for obese [**Male First Name (un) **] Tm 98 BP of 121/77 HR of 70 RR of 18 with
   sats of 100% on AC ventilation. He has good air entry over anterior
   lung fields. Edema is minimal.
   Labs notable for WBC 4.6 K, HCT 31.7 , K+ 4.3 , Cr of 0.9 , INR of 1.3.
   CXR with Rt sided volume loss but clear left lung field without
   effusions.
   Agree with plan to  slowly wean PSV/ CPAP today. we will hold tube
   feeds tonight in anticipation of possible extubation attempt in am
   [**2-13**]. Hold off on restarting anticoagulation till safely extubated for
   at least 24 more hrs.
   Patient is critically ill
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2102-2-12**] 01:21 PM ------

2102-02-13 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Weaned pressure support from [**8-21**] to [**3-21**] and pt became very agitated,
   tachy to 110s, and HTN eventually to 200/100. Returned pt to 15/5, but
   did not calm pt. Required fentayl bolus 100mg, oversedated resp drive
   and placed on AC. Later changed back to pressure support_____
   - ABG this AM
   - SBT this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-11**] 07:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-11**] 12:00 PM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-12**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-13**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 85 (67 - 111) bpm
   BP: 133/54(79) {93/41(57) - 196/97(135)} mmHg
   RR: 10 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,735 mL
                                                                    100 mL
   PO:
             TF:
                                                                  1,209 mL
                                                                      1 mL
   IVF:
                                                                    346 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                    841 mL
                                                                    365 mL
   Urine:
                                                                    841 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    894 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 329 (329 - 479) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.36/63/112/35/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   9.3 g/dL
   94 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.2 mEq/L
   22 mg/dL
   101 mEq/L
   139 mEq/L
   28.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2102-2-10**]  04:53 AM
                             [**2102-2-11**]  03:31 AM
                             [**2102-2-11**]  09:34 AM
                             [**2102-2-11**]  10:18 AM
                             [**2102-2-11**]  11:34 AM
                             [**2102-2-11**]  03:32 PM
                             [**2102-2-11**]  03:41 PM
                             [**2102-2-12**]  05:07 AM
                             [**2102-2-12**]  03:56 PM
                             [**2102-2-13**]  04:49 AM
   WBC
   4.0
   3.9
   5.4
   4.6
   6.0
   Hct
   36.0
   36.2
   37.8
   37.4
   34.1
   31.7
   28.8
   Plt
   170
   164
   171
   171
   170
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   35
   35
   37
   Glucose
   114
   112
   113
   94
   Other labs: PT / PTT / INR:14.8/25.0/1.3, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Patient is a 77 year old male with past medical history of lung cancer,
   DVT, and hypertension who presents with respiratory distress and
   unresponsiveness.
   #. Respiratory failure:  Known HAP based on [**2-3**] bronch (purulent
   secretions in RUL w/ plugging and scattered secretions entire R side
   and normal L side) . Bronch and sputum cultures with polys but yeast
   and no microorganisms seen. MRSA screen positive. Failed [**2-5**]
   extubation attempt due to oral secretions, AMS and lack of gag. CTA
   without PE of evidence of recurrent malignancy.  Family agrees to trach
   if necessary but seems to have improved MS with change in sedation from
   propofol to versed and fentanyl.
   - Scopolamine patch for secretions
   - tolerating pressure support well.
   - finished course of antibiotics.
   - lack of gag concerning for potential extubation, but given no other
   neuro deficits, likely due to med or ETT effects
   - plan to wean pressure support today, SBP and ABG in AM and
   potentially extubate if all goes well
   - hold TF after midnight
   - if becomes agitated due to resp status, will increase pressure
   support prior to reverting to AC
   # AMS- Resolved when neuro saw pt. Likely waxing and [**Doctor Last Name 533**], secondary
   to pneumonia vs hypoperfusion in setting of bradycardia in setting of
   poor reserve due to chronic microvascular ischemia.
   - F/u neuro recs
   #. Hypervolemia- continue diuresis, will be cautious to decrease
   preload too much from likely pulm HTN and being preload dept- - lasix
   20 IV x1 today, goal negative 1L
   #. History of DVT: Holding anticoagulation given plan for trach and
   hematuria
   #. Hematuria: Now improved after CBI. Initially with clots requiring
   replacement of foley with triple lumen for CBI. No known trauma or
   supratherapeutic anticoagulation. Anticoagulation held, given K.
   - check UA, UCx, cytology
   - [**Hospital1 7**] Hct check as has dropped 6 points with this bleeding.
   - CBI stopped
   - urology curbsided, outpt followup.
   #. Hypothyroidism: sick euthyroid. continue levothyroxine
   #. History of lung cancer (NSCLC): Stage III NSCLC s/p RLL lobectomy
   received chemo in [**2097**] and [**2098**]. CT in [**4-22**] showed stable, and had not
   seen a doctor since [**2098**].
   - Concerning for contribution to resp failure given no improvement
   #. Hypertension: Continue metoprolol at lower dose, watching for
   bradycardia.  Consider hydralazine or captopril if bradycardic but
   hypertensive.
   # Renal insufficiency: at baseline
   #. BPH: Holding BPH medications as foley in place, BP currently on
   lower side.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-13 11:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubatd, mechanically ventilated.  Poor tolerance to weaning
   strategies.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, mechanically ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-11**] 07:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-11**] 12:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-12**] 08:25 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-13**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Trach
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-13**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 73 (67 - 111) bpm
   BP: 138/51(79) {93/41(57) - 196/97(135)} mmHg
   RR: 17 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,735 mL
                                                                    222 mL
   PO:
             TF:
                                                                  1,209 mL
                                                                      1 mL
   IVF:
                                                                    346 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                    841 mL
                                                                    610 mL
   Urine:
                                                                    841 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    894 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 330 (329 - 425) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.36/63/112/35/8
   Ve: 6 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   170 K/uL
   94 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.2 mEq/L
   22 mg/dL
   101 mEq/L
   139 mEq/L
   28.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2102-2-10**]  04:53 AM
                             [**2102-2-11**]  03:31 AM
                             [**2102-2-11**]  09:34 AM
                             [**2102-2-11**]  10:18 AM
                             [**2102-2-11**]  11:34 AM
                             [**2102-2-11**]  03:32 PM
                             [**2102-2-11**]  03:41 PM
                             [**2102-2-12**]  05:07 AM
                             [**2102-2-12**]  03:56 PM
                             [**2102-2-13**]  04:49 AM
   WBC
   4.0
   3.9
   5.4
   4.6
   6.0
   Hct
   36.0
   36.2
   37.8
   37.4
   34.1
   31.7
   28.8
   Plt
   170
   164
   171
   171
   170
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   35
   35
   37
   Glucose
   114
   112
   113
   94
   Other labs: PT / PTT / INR:12.7/24.3/1.1, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) -- persistent.  Attributed to
   pneumonia.  Also with evidence for right hemidiaphragm elevation,
   likely due to prior surgical resection.  COntineu mechanical
   ventilation
   HEMATURIA -- improved, now with clots.  Monitor.  Urology revaluated --
   no plans for intervention.
   h/o DVT -- anticoagulation on hold.  Repeat LE NIVS (no documentation
   available at [**Hospital1 19**]) as anticoagulation on hold --> may need IVC filter
   if DVT present and no anticoagulation planned.
   NUTRITIONAL SUPPORT -- TF on hold.
   FLUIDS -- desire net negative fluid balance.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.
   Transfuse.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-14 09:47:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2102-2-13**] 04:01 PM
   Remains intubated, mechanically ventilated.  Favorable RSBI, continues
   to tolerate SBT.
   Following commands, appropriate.
   Continues to experience copious clear to white secretions.
   Generalized weakness.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-11**] 12:00 PM
   Ciprofloxacin - [**2102-2-14**] 09:06 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-2-13**] 12:18 PM
   Pantoprazole (Protonix) - [**2102-2-13**] 07:47 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-14**] 08:00 AM
   Midazolam (Versed) - [**2102-2-14**] 09:21 AM
   Fentanyl - [**2102-2-14**] 09:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   Generalized weakness
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-14**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 83 (63 - 86) bpm
   BP: 146/63(88) {102/38(56) - 168/68(103)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,123 mL
                                                                    501 mL
   PO:
             TF:
                                                                    501 mL
   IVF:
                                                                    352 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    530 mL
   Urine:
                                                                  1,790 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -667 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 573 (350 - 573) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.39/60/121/36/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   190 K/uL
   85 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.0 mEq/L
   23 mg/dL
   98 mEq/L
   138 mEq/L
   28.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-11**]  11:34 AM
                             [**2102-2-11**]  03:32 PM
                             [**2102-2-11**]  03:41 PM
                             [**2102-2-12**]  05:07 AM
                             [**2102-2-12**]  03:56 PM
                             [**2102-2-13**]  04:49 AM
                             [**2102-2-13**]  02:28 PM
                             [**2102-2-13**]  04:05 PM
                             [**2102-2-14**]  05:30 AM
                             [**2102-2-14**]  09:11 AM
   WBC
   5.4
   4.6
   6.0
   4.6
   Hct
   34.1
   31.7
   28.8
   30.0
   28.7
   Plt
   171
   171
   170
   190
   Cr
   0.9
   0.9
   0.7
   TCO2
   35
   35
   37
   37
   38
   Glucose
   113
   94
   85
   Other labs: PT / PTT / INR:12.7/24.3/1.1, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) -- persistent.  Attributed to
   pneumonia.  Also with evidence for right hemidiaphragm elevation,
   likely due to prior surgical resection.  More awatke, but still with
   copious secretions.  Continue  mechanical ventilation, SBT until
   secretions diminish.
   FLUIDS -- desire net negative fluid balance.  Continue net diuresis.
   HEMATURIA -- improved, now with clots.  Monitor.  Urology revaluated --
   no plans for intervention.
   HTN -- adjusting PO meds.
   UTI -- initiate ciprofloxicin.
   h/o DVT -- anticoagulation on hold.  Repeat LE NIVS (no documentation
   available at [**Hospital1 19**]) as anticoagulation on hold --> may need IVC filter
   if DVT present and no anticoagulation planned.  Awaiting final read on
   LE NIVS.
   NUTRITIONAL SUPPORT -- TF on hold --> resume if unable to extubate.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-14 15:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2102-2-13**] 04:01 PM negative for DVT
   1500 Hct stable
   Stopped TF at midnight
   Secretions minimal/white
   Decreased sedation to bolus
   NIF negative 21
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-14**] 09:06 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-13**] 07:47 PM
   Midazolam (Versed) - [**2102-2-14**] 09:21 AM
   Fentanyl - [**2102-2-14**] 09:21 AM
   Furosemide (Lasix) - [**2102-2-14**] 10:20 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-14**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-14**] 03:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 82 (63 - 92) bpm
   BP: 121/47(70) {103/40(59) - 170/74(110)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,123 mL
                                                                    980 mL
   PO:
             TF:
                                                                    501 mL
                                                                    193 mL
   IVF:
                                                                    352 mL
                                                                    546 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                  2,020 mL
   Urine:
                                                                  1,790 mL
                                                                  2,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -667 mL
                                                                 -1,039 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 432 (315 - 573) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/60/121/36/9
   NIF: -26 cmH2O
   Ve: 9.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Gen: Awake and following commands, unable to lift head entirely off of
   bed
   Neck: JVD to 3-4cm
   Heart: RRR, distant heart sounds
   Lungs: Scant crackles laterally
   Abd: Soft, NT, obese, BS+
   Ext: Trace pitting edema, no sacral edema
   Labs / Radiology
   190 K/uL
   9.2 g/dL
   85 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.0 mEq/L
   23 mg/dL
   98 mEq/L
   138 mEq/L
   28.7 %
   4.6 K/uL
         [image002.jpg]
                             [**2102-2-11**]  11:34 AM
                             [**2102-2-11**]  03:32 PM
                             [**2102-2-11**]  03:41 PM
                             [**2102-2-12**]  05:07 AM
                             [**2102-2-12**]  03:56 PM
                             [**2102-2-13**]  04:49 AM
                             [**2102-2-13**]  02:28 PM
                             [**2102-2-13**]  04:05 PM
                             [**2102-2-14**]  05:30 AM
                             [**2102-2-14**]  09:11 AM
   WBC
   5.4
   4.6
   6.0
   4.6
   Hct
   34.1
   31.7
   28.8
   30.0
   28.7
   Plt
   171
   171
   170
   190
   Cr
   0.9
   0.9
   0.7
   TCO2
   35
   35
   37
   37
   38
   Glucose
   113
   94
   85
   Other labs: PT / PTT / INR:12.7/24.3/1.1, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   77 yo M w/ PMH of resected lung CA, HTN p/w respiratory distress and
   copius secretions
   .
   #respiratory failure: Has been passing SBTs, mental status probably ok
   for extubation but still concern about volume of secretions given
   failed extubation previously for secretions and weak cough.
   - switch sedation to propofol
   - stop TF at 0500
   - quantify secretions
   - plan for extubation tomorrow morning if secretions decreasing
   .
   #Altered mental status: likely [**12-19**] to sedation. Switching to propofol.
   Could be contribution from UTI
   - treat UTI
   - propofol for sedation
   .
   #Hypervolemia: Slightly volume up, but autodiuresed o/n
   - afternoon I/O check.
   .
   #Hx of DVt: no U/S at OSH confirming Hx, also MRI of knee done which
   did not show DVT.
   - Hold anticoagulation
   .
   #hematuria: Resolved, no longer on CBI, Hct stable, likely [**12-19**] UTI w/
   pseudamonas
   - Cipro 400mg IV q12
   - Active T/S
   .
   #Hypertension: Has been well controlled lately
   - add hydral or captopril if HTN uncontrolled
   .
   #Renal insufficiency: At baseline
   - monitor Cr
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   Code: Full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-14**] 10:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-15 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ PMH of resected lung CA, HTN p/w respiratory distress and
   copius secretions
   24 Hour Events:
   -restarted TF
   -lenis negative
   -OSH records no study showing DVT, did not start anticoagulation
   -1/O check mid day -824 (goal was -500)
   -changed sedation to propofol
   - PT c/s placed
   -nursing reporting less secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-14**] 07:40 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2102-2-14**] 09:21 AM
   Midazolam (Versed) - [**2102-2-14**] 09:21 AM
   Furosemide (Lasix) - [**2102-2-14**] 10:20 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-14**] 02:30 PM
   Other medications:
   PPI IV q24hrs
   Levothyroxine 50mcgs daily
   Captopril 6.25mg TID
   SCH
   Cipro 400mg IV q12hrs
   Lopressor 6.25mg [**Hospital1 7**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-15**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.1
C (97
   HR: 74 (70 - 94) bpm
   BP: 111/40(60) {105/40(60) - 177/81(120)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,855 mL
                                                                    442 mL
   PO:
             TF:
                                                                    547 mL
                                                                    268 mL
   IVF:
                                                                  1,068 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    520 mL
   Urine:
                                                                  2,630 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 397 (315 - 573) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.40/62/87.[**Numeric Identifier 181**]/37/10
   NIF: -11 cmH2O
   Ve: 8.8 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen: Awake and following commands, unable to lift head entirely off of
   bed
   Neck: JVD to 3-4cm
   Heart: RRR, distant heart sounds
   Lungs: Scant crackles laterally
   Abd: Soft, NT, obese, BS+
   Ext: Trace pitting edema, no sacral edema
   Labs / Radiology
   220 K/uL
   9.8 g/dL
   111 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.9 mEq/L
   21 mg/dL
   99 mEq/L
   141 mEq/L
   30.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2102-2-12**]  05:07 AM
                             [**2102-2-12**]  03:56 PM
                             [**2102-2-13**]  04:49 AM
                             [**2102-2-13**]  02:28 PM
                             [**2102-2-13**]  04:05 PM
                             [**2102-2-14**]  05:30 AM
                             [**2102-2-14**]  09:11 AM
                             [**2102-2-15**]  04:07 AM
                             [**2102-2-15**]  04:24 AM
                             [**2102-2-15**]  06:05 AM
   WBC
   4.6
   6.0
   4.6
   4.3
   Hct
   31.7
   28.8
   30.0
   28.7
   30.3
   Plt
   171
   170
   190
   220
   Cr
   0.9
   0.9
   0.7
   0.8
   TCO2
   37
   37
   38
   40
   40
   Glucose
   113
   94
   85
   111
   Other labs: PT / PTT / INR:12.7/24.3/1.1, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   77 yo M w/ PMH of resected lung CA, HTN p/w respiratory distress and
   copius secretions
   .
   #respiratory failure:  Stable.  Patient
s NIF yesterday was -21.
   Patient was successfully extubated this morning, had 200cc of
   secretions over past 24 hours.  Patient .  P but still concern about
   volume of secretions given failed extubation previously for secretions
   and weak cough.
   - Monitor respiratory status.  Bridge with BiPAP.  [**Month (only) 51**] need
   reintubation if patient worsens.
   .
   #Altered mental status: [**12-19**] to sedation.  Patient now off propofol, is
   a bit confused.  Could be contribution from UTI
   - treat UTI
   - monitor MS, frequent reorientation
   .
   #Hypervolemia: Patient negative 700cc since yesterday.
   - goal even
   .
   #hematuria: Resolved, no longer on CBI, Hct stable, likely [**12-19**] UTI w/
   pseudamonas
   - Cipro 400mg IV q12
   - Active T/S
   .
   #Hypertension: Has been well controlled lately.  Range from 120s-150s
   systolic.  Patient has had some aberrant elevated readings.
   - Continue captopril and lopressor.
   .
   #Renal insufficiency: At baseline
   - monitor Cr
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   Code: Full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-14**] 10:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-15 11:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   RSBI favorable, and tolerated SBT.
   Respiratory secretions
   Off sedation since yesterday AM, mental status improved.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-15**] 07:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-14**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-15**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 71 (68 - 94) bpm
   BP: 137/56(85) {107/40(60) - 177/81(120)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,855 mL
                                                                    897 mL
   PO:
             TF:
                                                                    547 mL
                                                                    413 mL
   IVF:
                                                                  1,068 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    910 mL
   Urine:
                                                                  2,630 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (315 - 432) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.40/62/87.[**Numeric Identifier 181**]/37/10
   NIF: -11 cmH2O
   Ve: 7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   220 K/uL
   111 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.9 mEq/L
   21 mg/dL
   99 mEq/L
   141 mEq/L
   30.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2102-2-12**]  05:07 AM
                             [**2102-2-12**]  03:56 PM
                             [**2102-2-13**]  04:49 AM
                             [**2102-2-13**]  02:28 PM
                             [**2102-2-13**]  04:05 PM
                             [**2102-2-14**]  05:30 AM
                             [**2102-2-14**]  09:11 AM
                             [**2102-2-15**]  04:07 AM
                             [**2102-2-15**]  04:24 AM
                             [**2102-2-15**]  06:05 AM
   WBC
   4.6
   6.0
   4.6
   4.3
   Hct
   31.7
   28.8
   30.0
   28.7
   30.3
   Plt
   171
   170
   190
   220
   Cr
   0.9
   0.9
   0.7
   0.8
   TCO2
   37
   37
   38
   40
   40
   Glucose
   113
   94
   85
   111
   Other labs: PT / PTT / INR:12.7/24.3/1.1, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.5,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:137 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE -- persistent.  Attributed to pneumonia.
   Right hemidiaphragm elevation, likely due to prior surgical resection &
   volume loss.  More awake, and reduced secretions.  Continue  mechanical
   ventilation, SBT --> hopefully extubation.  COnsider BiPAP if fails
   following extubation.
   FLUIDS -- desire net negative fluid balance.  Continue net diuresis.
   HEMATURIA -- improved, now with clots.  Monitor.  Urology revaluated --
   no plans for intervention.
   HTN -- adjusting PO meds.
   UTI -- continue  ciprofloxicin.
   h/o DVT -- no evidence for DVT.
   NUTRITIONAL SUPPORT -- TF on hold --> resume if unable to extubate.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-2**] 11:30 PM
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-16 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ PMH of resected lung CA, HTN p/w respiratory distress and
   copius secretions, now reintubated and with NSTEMI and VAP.
   24 Hour Events:
   -Extubated
   -Intubated
   -Lost art line
   - BP drifted downward-decreased PEEP, switched from propofol to
   midaz/fentanyl, gave 500cc bolus. also febrile so started on vanc/zosyn
   for VAP given RLL opacity.
   -hematuria recurred, UOP dropped off
   -Started CBI
   -IP to evaluate for trach/peg in am
   -Checked DIC labs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-15**] 07:52 PM
   Vancomycin - [**2102-2-15**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-15**] 09:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2102-2-15**] 03:30 PM
   Fentanyl - [**2102-2-15**] 03:30 PM
   Heparin Sodium - [**2102-2-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-16**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98.1
   HR: 77 (66 - 126) bpm
   BP: 102/50(64) {85/43(53) - 139/67(85)} mmHg
   RR: 0 (0 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,372 mL
                                                                    962 mL
   PO:
             TF:
                                                                    599 mL
                                                                    261 mL
   IVF:
                                                                  1,652 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    160 mL
   Urine:
                                                                  1,555 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    817 mL
                                                                    803 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 251 (251 - 322) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.41/59/185/34/10
   Ve: 6.4 L/min
   PaO2 / FiO2: 463
   Physical Examination
   Gen: Awake and following commands, unable to lift head entirely off of
   bed
   Neck: Unable to examine JCD
   Heart: RRR, distant heart sounds
   Lungs: Scant crackles laterally
   Abd: Soft, NT, obese, BS+
   Ext: Trace pitting edema, no sacral edema
   Labs / Radiology
   252 K/uL
   8.5 g/dL
   113 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.8 mEq/L
   22 mg/dL
   98 mEq/L
   139 mEq/L
   26.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-15**]  04:07 AM
                             [**2102-2-15**]  04:24 AM
                             [**2102-2-15**]  06:05 AM
                             [**2102-2-15**]  11:43 AM
                             [**2102-2-15**]  02:51 PM
                             [**2102-2-15**]  04:49 PM
                             [**2102-2-15**]  08:20 PM
                             [**2102-2-15**]  11:17 PM
                             [**2102-2-16**]  04:27 AM
                             [**2102-2-16**]  04:44 AM
   WBC
   4.3
   5.1
   4.6
   Hct
   30.3
   27.9
   26.2
   Plt
   220
   279
   252
   Cr
   0.8
   0.8
   0.8
   TCO2
   40
   40
   38
   37
   38
   37
   39
   Glucose
   111
   122
   113
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:62/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   77 yo M w/ PMH of resected lung CA, HTN p/w respiratory distress and
   copius secretions, now reintubated and with NSTEMI and VAP.
   # NSTEMI:  Patient had transiently become hypotensive overnight, of
   unclear etiology.  Patient had lateral precordial TWIs and elevated
   cardiac enzymes, (MBI 15, Trop 0.82) suggestive of NSTEMI.  Second set
   CE show falling CK and Troponin.  Patient not in cardiogenic shock.
   Patient has worsening RLL opacity, unclear if related to cardiogenic
   edema versus ventilator associated PNA.  Patient with mild temp 100.3
   and could be associated with PNA versus MI.  Patient received ASA
   325mg, Lopressor 12,5mg once, and Simvastatin 80mg.  Given patient
   response to BP medications and propensity to hypotension, will start
   esmolol gtt later this afternoon.  Holding Captopril currently in
   setting of hypotension.
   -          ASA 325mg daily
   -          Simvastatin 80mg daily
   -          Esmolol gtt later this afternoon
   -          Transfuse 2u PRBCs in setting of NSTEMI for goal > 30
   -          Monitor this afternoon to see if patient needs further
   diruesis.
   # Ventilator Associated Pneumonia:  Patient was extubated and
   subsequently re-intubated yesterday as he was unable to clear his
   secretion with adequate cough, and had worsening CO2 retention.
   Yesterday evening, had Temp 100.3, CXR showed worsening RLL opacity.
   Given patient
s multiple re-intubation, it is possible and important to
   cover for VAP.  Patient received Vanc/Zosyn overnight, however in light
   of patient
s poor sensitivties to Psudomonal UTI, will switch to
   cefepime.  Patient has no anaerobic coverage currently.
   -          Change Vancomycin dose to 1.25g q12hrs
   -          d/c Zosyn
   -          Start Cefepime 2g q8hrs
   -          Monitor Fever curve, worsening leukocytosis.
   # Respiratory failure:  Patient currently intubated and failed
   extubation yesterday.  Patient was not able to clear secretions well.
   Patient is maintaining saturations well with 40% FiO2 and can
   decrease.  Patient will need Trach and Peg by IP, however it is unclear
   if patient will be good candidate in setting of NSTEMI.  Patient will
   need to be monitored.  For now, can decrease PEEP to 5 in preparation
   for possible Trach/Peg.
   -          Decrease PEEP to 5
   -          Decrease FiO2 to 0.3
   -          Continue Fentanyl/Midazolam for sedation.
   -          IP recommendations
   # Hypotension:   Transient overnight with systolic BPs as low as 80.
   Patient responded to small fluid challenge, unclear etiology as patient
   was previously hypertensive.  BP was 130s this AM.  In setting of
   NSTEMI and hypotension, will need to continue BB to achieve lower HR
   (with esmolol gtt) and hold Captopril for now.
   -          Continue BB
   # Psueudomonas UTI:  Day [**1-21**].  Patient was on [**Last Name (LF) **], [**First Name3 (LF) **] switch to
   cefepime to cover for Pseudomonas for possible VAP etiology.
   -          Start Cefepime to cover UTI and VAP
   # Hematuria:  Likely secondary to UTI versus foley trauma from
   agitation.  Patient currently undergoing CBI, urine clearing.  Patient
   had mild HCT drop in setting hematuria.
   -          Continue CBI through afternoon, will d/c once urine stays
   clear.
   BPH: Foley in place
   PPx: SubQ heparin, bowel reg
   Code: Full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-15**] 05:01 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-16 12:06:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday late morning, but gradually failed over course of
   afternoon, requireing reintubation.  (Poor handling of secretions,
   hypoxemia, atalectasis by CXR).
   Recurrent hematuria.
                                 History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-15**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-16**] 06:00 AM
   Vancomycin - [**2102-2-16**] 07:40 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2102-2-15**] 03:30 PM
   Fentanyl - [**2102-2-15**] 03:30 PM
   Heparin Sodium - [**2102-2-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-16**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 95 (66 - 126) bpm
   BP: 111/47(60) {85/43(53) - 139/67(85)} mmHg
   RR: 15 (0 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,372 mL
                                                                  2,628 mL
   PO:
             TF:
                                                                    599 mL
                                                                    472 mL
   IVF:
                                                                  1,652 mL
                                                                  2,086 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    560 mL
   Urine:
                                                                  1,555 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    817 mL
                                                                  2,068 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 38 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/59/185/34/10
   Ve: 8 L/min
   PaO2 / FiO2: 463
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   252 K/uL
   113 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.8 mEq/L
   22 mg/dL
   98 mEq/L
   139 mEq/L
   26.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2102-2-15**]  04:07 AM
                             [**2102-2-15**]  04:24 AM
                             [**2102-2-15**]  06:05 AM
                             [**2102-2-15**]  11:43 AM
                             [**2102-2-15**]  02:51 PM
                             [**2102-2-15**]  04:49 PM
                             [**2102-2-15**]  08:20 PM
                             [**2102-2-15**]  11:17 PM
                             [**2102-2-16**]  04:27 AM
                             [**2102-2-16**]  04:44 AM
   WBC
   4.3
   5.1
   4.6
   Hct
   30.3
   27.9
   26.2
   Plt
   220
   279
   252
   Cr
   0.8
   0.8
   0.8
   TCO2
   40
   40
   38
   37
   38
   37
   39
   Glucose
   111
   122
   113
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:131/3/0.04, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE -- persistent, multifactorial  (new
   pneumonia, right hemidiaphragm elevation, likely due to prior surgical
   resection & volume loss).  Continue mechanical ventilation, monitor
   ABG.  Move towards Trach.  Antimicrobials --> Vanco, Cefopime.
   FLUIDS -- desire net negative fluid balance.  Continue net diuresis.
   HEMATURIA -- recurrent.  Urology to revaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime.
   h/o DVT -- no evidence for DVT.
   NUTRITIONAL SUPPORT -- TF on hold --> PEG, then resume.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   Plan to move to screening.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-15**] 05:01 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-17 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ PMH of resected lung CA, HTN p/w respiratory distress and
   copius secretions, now reintubated and with NSTEMI and VAP.
   24 Hour Events:
   - Spiked temp at 5am to 100.3, BCx drawn
   - CE peaked
   - Turned off esmolol secondary to hypotension
   - Started on ASA, HD Statin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-15**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-16**] 06:00 AM
   Vancomycin - [**2102-2-16**] 07:40 PM
   Cefipime - [**2102-2-16**] 07:41 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-16**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-17**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 93 (64 - 97) bpm
   BP: 118/61(75) {78/37(47) - 125/67(81)} mmHg
   RR: 8 (8 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  4,566 mL
                                                                    441 mL
   PO:
             TF:
                                                                    960 mL
                                                                    281 mL
   IVF:
                                                                  2,750 mL
                                                                    161 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  1,405 mL
                                                                    135 mL
   Urine:
                                                                  1,405 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,161 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 93%
   ABG: ///28/
   Ve: 7.3 L/min
   Physical Examination
   Gen: Awake and following commands, unable to lift head entirely off of
   bed
   Neck: Unable to examine JCD
   Heart: RRR, distant heart sounds
   Lungs: Scant crackles laterally
   Abd: Soft, NT, obese, BS+
   Ext: Trace pitting edema, no sacral edema
   Labs / Radiology
   277 K/uL
   9.8 g/dL
   107 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   23 mg/dL
   104 mEq/L
   141 mEq/L
   29.0 %
   5.3 K/uL
        [image002.jpg]
                             [**2102-2-15**]  02:51 PM
                             [**2102-2-15**]  04:49 PM
                             [**2102-2-15**]  08:20 PM
                             [**2102-2-15**]  11:17 PM
                             [**2102-2-16**]  04:27 AM
                             [**2102-2-16**]  04:44 AM
                             [**2102-2-16**]  12:50 PM
                             [**2102-2-16**]  02:19 PM
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
   WBC
   5.1
   4.6
   5.3
   Hct
   27.9
   26.2
   25.9
   28.6
   29.0
   Plt
   279
   252
   277
   Cr
   0.8
   0.8
   0.8
   TropT
   0.82
   0.56
   0.54
   TCO2
   37
   38
   37
   39
   Glucose
   122
   113
   107
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   77 yo M w/ PMH of resected lung CA, HTN p/w respiratory distress and
   copius secretions, now reintubated and with NSTEMI and VAP.
   # NSTEMI:  Patient had transiently become hypotensive overnight, of
   unclear etiology.  Patient had lateral precordial TWIs and elevated
   cardiac enzymes, (MBI 15, Trop 0.82) suggestive of NSTEMI.  Second set
   CE show falling CK and Troponin.  Patient not in cardiogenic shock.
   Patient has worsening RLL opacity, unclear if related to cardiogenic
   edema versus ventilator associated PNA.  Patient with mild temp 100.3
   and could be associated with PNA versus MI.  Patient received ASA
   325mg, Lopressor 12,5mg once, and Simvastatin 80mg.  Given patient
   response to BP medications and propensity to hypotension, will start
   esmolol gtt later this afternoon.  Holding Captopril currently in
   setting of hypotension.
   -          ASA 325mg daily
   -          Simvastatin 80mg daily
   -          Esmolol gtt later this afternoon
   -          Transfuse 2u PRBCs in setting of NSTEMI for goal > 30
   -          Monitor this afternoon to see if patient needs further
   diruesis.
   # Ventilator Associated Pneumonia:  Patient was extubated and
   subsequently re-intubated yesterday as he was unable to clear his
   secretion with adequate cough, and had worsening CO2 retention.
   Yesterday evening, had Temp 100.3, CXR showed worsening RLL opacity.
   Given patient
s multiple re-intubation, it is possible and important to
   cover for VAP.  Patient received Vanc/Zosyn overnight, however in light
   of patient
s poor sensitivties to Psudomonal UTI, will switch to
   cefepime.  Patient has no anaerobic coverage currently.
   -          Change Vancomycin dose to 1.25g q12hrs
   -          d/c Zosyn
   -          Start Cefepime 2g q8hrs
   -          Monitor Fever curve, worsening leukocytosis.
   # Respiratory failure:  Patient currently intubated and failed
   extubation yesterday.  Patient was not able to clear secretions well.
   Patient is maintaining saturations well with 40% FiO2 and can
   decrease.  Patient will need Trach and Peg by IP, however it is unclear
   if patient will be good candidate in setting of NSTEMI.  Patient will
   need to be monitored.  For now, can decrease PEEP to 5 in preparation
   for possible Trach/Peg.
   -          Decrease PEEP to 5
   -          Decrease FiO2 to 0.3
   -          Continue Fentanyl/Midazolam for sedation.
   -          IP recommendations
   # Hypotension:   Transient overnight with systolic BPs as low as 80.
   Patient responded to small fluid challenge, unclear etiology as patient
   was previously hypertensive.  BP was 130s this AM.  In setting of
   NSTEMI and hypotension, will need to continue BB to achieve lower HR
   (with esmolol gtt) and hold Captopril for now.
   -          Continue BB
   # Psueudomonas UTI:  Day [**1-21**].  Patient was on [**Last Name (LF) **], [**First Name3 (LF) **] switch to
   cefepime to cover for Pseudomonas for possible VAP etiology.
   -          Start Cefepime to cover UTI and VAP
   # Hematuria:  Likely secondary to UTI versus foley trauma from
   agitation.  Patient currently undergoing CBI, urine clearing.  Patient
   had mild HCT drop in setting hematuria.
   -          Continue CBI through afternoon, will d/c once urine stays
   clear.
   BPH: Foley in place
   PPx: SubQ heparin, bowel reg
   Code: Full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-16**] 05:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-17 13:14:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Offers no new complaints.
   Denies chest pain.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: mechanical ventiation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-15**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-16**] 06:00 AM
   Vancomycin - [**2102-2-17**] 07:46 AM
   Cefipime - [**2102-2-17**] 09:46 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-17**] 07:46 AM
   Furosemide (Lasix) - [**2102-2-17**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-17**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 84 (64 - 95) bpm
   BP: 121/62(77) {78/37(47) - 125/67(81)} mmHg
   RR: 9 (8 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  4,566 mL
                                                                  1,087 mL
   PO:
             TF:
                                                                    960 mL
                                                                    523 mL
   IVF:
                                                                  2,750 mL
                                                                    564 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  1,405 mL
                                                                    444 mL
   Urine:
                                                                  1,405 mL
                                                                    444 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,161 mL
                                                                    643 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 571 (571 - 571) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 98%
   ABG: ///28/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   277 K/uL
   107 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   23 mg/dL
   104 mEq/L
   141 mEq/L
   29.0 %
   5.3 K/uL
        [image002.jpg]
                             [**2102-2-15**]  02:51 PM
                             [**2102-2-15**]  04:49 PM
                             [**2102-2-15**]  08:20 PM
                             [**2102-2-15**]  11:17 PM
                             [**2102-2-16**]  04:27 AM
                             [**2102-2-16**]  04:44 AM
                             [**2102-2-16**]  12:50 PM
                             [**2102-2-16**]  02:19 PM
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
   WBC
   5.1
   4.6
   5.3
   Hct
   27.9
   26.2
   25.9
   28.6
   29.0
   Plt
   279
   252
   277
   Cr
   0.8
   0.8
   0.8
   TropT
   0.82
   0.56
   0.54
   TCO2
   37
   38
   37
   39
   Glucose
   122
   113
   107
   Other labs: PT / PTT / INR:12.3/23.6/1.0, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE -- recurrent, s/p extubation attampts x2.
   Multifactorial  (new pneumonia, right hemidiaphragm elevation, likely
   due to prior surgical resection & volume loss).  Continue mechanical
   ventilation, monitor ABG.  Move to Trach.  Antimicrobials --> Vanco,
   Cefopime.
   NSTEMI -- occured in context of resp. distress, rather than primary
   event.  Plan continue medical [**Last Name (LF) 6752**], [**First Name3 (LF) **], statin, transfuse to >27
   Hct.  Would like to better control HR with beta-blocker if BP
   tolerates.
   FLUIDS -- desire net negative fluid balance.  Received iv fluids for
   hypotension yesterday.  Resume net diuresis.
   HEMATURIA -- recurrent.  Urology to revaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime.
   NUTRITIONAL SUPPORT -- TF on hold --> PEG, then resume.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   Plan to move to screening.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-16**] 05:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-18 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -No new growth on blood cx
   -Aline placed.  ABG pH 7.41 pCO255 pO293 HCO3 36 BaseXS 7
   -HCT stable
   -HR in 60s did not start labetalol
   -pt even at 9pm so got a second dose of lasix 40 IV goal 500xcc neg
   -IP fellow saw pt.  Would be candidate for trach if troponins continue
   to fall.  Attending has not seen pt yet. fellow unsure if would be
   candidate for peg given ventral wall hernia (may need [**Doctor First Name 213**] c/s)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-15**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-16**] 06:00 AM
   Cefipime - [**2102-2-17**] 08:04 PM
   Vancomycin - [**2102-2-17**] 08:05 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-17**] 02:00 PM
   Midazolam (Versed) - [**2102-2-17**] 05:00 PM
   Fentanyl - [**2102-2-17**] 05:00 PM
   Furosemide (Lasix) - [**2102-2-17**] 10:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-18**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.4
   HR: 90 (58 - 98) bpm
   BP: 149/77(103) {91/38(54) - 178/83(355)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,207 mL
                                                                    404 mL
   PO:
             TF:
                                                                    982 mL
                                                                    304 mL
   IVF:
                                                                  1,050 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                  1,210 mL
   Urine:
                                                                  2,465 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -258 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 459 (459 - 571) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/53/117/33/9
   Ve: 9.2 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Gen: Lethargic, sedated, following commands
   Heart: RRR, distant heart sounds
   Lungs: CTA anteriorly
   Abd: Soft, NT, ND, BS+
   Ext: Trace LE edema, trace sacral edema
   Labs / Radiology
   320 K/uL
   10.3 g/dL
   104 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.6 mEq/L
   23 mg/dL
   101 mEq/L
   141 mEq/L
   31.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2102-2-16**]  04:44 AM
                             [**2102-2-16**]  12:50 PM
                             [**2102-2-16**]  02:19 PM
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
                             [**2102-2-17**]  03:06 PM
                             [**2102-2-17**]  06:30 PM
                             [**2102-2-17**]  06:59 PM
                             [**2102-2-18**]  05:00 AM
                             [**2102-2-18**]  05:18 AM
   WBC
   4.6
   5.3
   5.7
   Hct
   26.2
   25.9
   28.6
   29.0
   30.1
   31.8
   Plt
   [**Telephone/Fax (3) 6763**]
   Cr
   0.8
   0.8
   0.8
   TropT
   0.82
   0.56
   0.54
   TCO2
   36
   36
   Glucose
   113
   107
   104
   Other labs: PT / PTT / INR:12.7/22.0/1.1, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   # NSTEMI: Ce
s peaked and trending downward.   Got A-line yesterday
             -    Cont ASA 325mg daily
   -          Cont Simvastatin 80mg daily
   -          Low dose PO BB
   -          Monitor this afternoon to see if patient needs diruesis.
   # Ventilator Associated Pneumonia:  K. pneumoniae grew from sputum,
   appears to be [**Last Name (LF) 1899**], [**First Name3 (LF) **] start empirically on meropenem.  Blood
   cultures negative to date
   - F/u blood cultures
   -          Start meropenem
   -          Consider d/c vanc
   -          Consider tobramycin or gent until sensitivities return but
   aminoglycosides have poor lung penetration.
   -          Culture if spikes
   -          # Respiratory failure:  Patient currently intubated. Has
   failed extubation twice.
   -                 Trach/PEG on Monday, family on board
   -
   -          # Psueudomonas UTI:  Day [**2-21**], initially started on cipro,
   then cefepime now will change to meropenem for [**Month/Day (4) 1899**] klebs in sputum
   will also cover psuedamonas.
   -                 Meropenem
   # Hematuria:  Resolved.
   BPH: Foley in place
   PPx: SubQ heparin, bowel reg
   Code: Full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-17**] 04:55 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-18 12:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedated.
   Offers no complaints.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-2-15**] 07:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-16**] 06:00 AM
   Vancomycin - [**2102-2-18**] 08:07 AM
   Cefipime - [**2102-2-18**] 08:07 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2102-2-17**] 05:00 PM
   Fentanyl - [**2102-2-17**] 05:00 PM
   Furosemide (Lasix) - [**2102-2-17**] 10:48 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-18**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss, Low grade temp
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-18**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 91 (58 - 98) bpm
   BP: 140/66(94) {91/38(54) - 178/83(355)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,207 mL
                                                                  1,139 mL
   PO:
             TF:
                                                                    982 mL
                                                                    626 mL
   IVF:
                                                                  1,050 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                  1,630 mL
   Urine:
                                                                  2,465 mL
                                                                  1,630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -258 mL
                                                                   -491 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 694 (459 - 694) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.43/53/117/31/9
   Ve: 9 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   320 K/uL
   110 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.9 mEq/L
   24 mg/dL
   98 mEq/L
   137 mEq/L
   31.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2102-2-16**]  04:44 AM
                             [**2102-2-16**]  12:50 PM
                             [**2102-2-16**]  02:19 PM
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
                             [**2102-2-17**]  03:06 PM
                             [**2102-2-17**]  06:30 PM
                             [**2102-2-17**]  06:59 PM
                             [**2102-2-18**]  05:00 AM
                             [**2102-2-18**]  05:18 AM
   WBC
   4.6
   5.3
   5.7
   Hct
   26.2
   25.9
   28.6
   29.0
   30.1
   31.8
   Plt
   [**Telephone/Fax (3) 6763**]
   Cr
   0.8
   0.8
   0.8
   0.8
   TropT
   0.82
   0.56
   0.54
   TCO2
   36
   36
   Glucose
   113
   107
   104
   110
   Other labs: PT / PTT / INR:12.7/22.0/1.1, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE -- recurrent, s/p extubation attampts x2.
   Multifactorial  (new pneumonia, right hemidiaphragm elevation, likely
   due to prior surgical resection & volume loss).  Continue mechanical
   ventilation, monitor ABG.  Plan for Trach. on Monday (in OR).
   Antimicrobials --> Vanco, Cefopime.
   PNEUMONIA -- VAP, Klebsiella (EBSL) --> adjust antimicrobials, maintain
   precautions.
   NSTEMI -- occured in context of resp. distress, rather than primary
   event.  Plan continue medical [**Last Name (LF) 6752**], [**First Name3 (LF) **], statin, transfuse to >27
   Hct.  Stable.
   FLUIDS -- desire net negative fluid balance.  Received iv fluids for
   hypotension yesterday.  Resume net diuresis.
   HEMATURIA -- recurrent.  Urology to revaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime.
   NUTRITIONAL SUPPORT -- TF; plan for PEG Monday.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   Plan to move to screening for respiratory rehab facility.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-17**] 04:55 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-19 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   24 Hour Events:
   Sputum Cx grew Klebsiella [** 1899**]
   Started meropenem day 1=[**2-18**]
   IP->trach in OR monday
   CT to eval for ventral hernia for PEG read pending
   Started low dose PO BB to optimize medical regimen
   Diuresed 1200cc at bedtime
   Updated family, ok w/ PEG/Trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2102-2-18**] 08:11 PM
   Vancomycin - [**2102-2-18**] 08:11 PM
   Meropenem - [**2102-2-19**] 02:07 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2102-2-18**] 04:51 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-18**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-19**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 85 (64 - 92) bpm
   BP: 156/75(106) {104/44(62) - 159/75(106)} mmHg
   RR: 21 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,355 mL
                                                                    540 mL
   PO:
             TF:
                                                                  1,208 mL
                                                                    333 mL
   IVF:
                                                                  1,087 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    315 mL
   Urine:
                                                                  3,720 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,365 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 413 (413 - 694) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 8.8 L/min
   Physical Examination
   Gen: Lethargic, sedated, following commands
   Heart: RRR, distant heart sounds
   Lungs: CTA anteriorly
   Abd: Soft, NT, ND, BS+
   Ext: Trace LE edema, trace sacral edema
   Labs / Radiology
   339 K/uL
   10.2 g/dL
   115 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.6 mEq/L
   25 mg/dL
   98 mEq/L
   139 mEq/L
   30.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2102-2-16**]  12:50 PM
                             [**2102-2-16**]  02:19 PM
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
                             [**2102-2-17**]  03:06 PM
                             [**2102-2-17**]  06:30 PM
                             [**2102-2-17**]  06:59 PM
                             [**2102-2-18**]  05:00 AM
                             [**2102-2-18**]  05:18 AM
                             [**2102-2-19**]  03:00 AM
   WBC
   5.3
   5.7
   5.9
   Hct
   25.9
   28.6
   29.0
   30.1
   31.8
   30.4
   Plt
   277
   320
   339
   Cr
   0.8
   0.8
   0.8
   0.9
   TropT
   0.56
   0.54
   TCO2
   36
   36
   Glucose
   107
   104
   110
   115
   Other labs: PT / PTT / INR:13.6/25.4/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   # NSTEMI: Ce
s peaked and trending downward.   Got A-line yesterday
           -     Cont ASA 325mg daily
   -          Cont Simvastatin 80mg daily
   -          Low dose PO BB
   -          Monitor this afternoon to see if patient needs diruesis.
   # Ventilator Associated Pneumonia:  K. pneumoniae grew from sputum,
   appears to be [**Last Name (LF) 1899**], [**First Name3 (LF) **] start empirically on meropenem.  Blood
   cultures negative to date
   - F/u blood cultures
   -          Start meropenem
   -          Consider d/c vanc
   -          Consider tobramycin or gent until sensitivities return but
   aminoglycosides have poor lung penetration.
   -          Culture if spikes
   # Respiratory failure:  Patient currently intubated. Has failed
   extubation twice.
   -          Trach/PEG on Monday, family on board
   -
   # Psueudomonas UTI:  Day [**2-21**], initially started on cipro, then cefepime
   now will change to meropenem for [**Month/Day (4) 1899**] klebs in sputum will also cover
   psuedamonas.
   -          Meropenem
   # Hematuria:  Resolved.
   BPH: Foley in place
   PPx: SubQ heparin, bowel reg
   Code: Full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-18**] 12:58 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-19 12:54:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intuabed, mechanically ventilated.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-19**] 07:50 AM
   Cefipime - [**2102-2-19**] 07:50 AM
   Meropenem - [**2102-2-19**] 07:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2102-2-18**] 04:51 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-19**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2102-2-19**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 66 (54 - 92) bpm
   BP: 136/63(90) {104/44(62) - 159/75(106)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,355 mL
                                                                  1,060 mL
   PO:
             TF:
                                                                  1,208 mL
                                                                    408 mL
   IVF:
                                                                  1,087 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    475 mL
   Urine:
                                                                  3,720 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,365 mL
                                                                    585 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 449 (374 - 449) mL
   PS : 15 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.41/54/111/34/8
   Ve: 8.2 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   339 K/uL
   115 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.6 mEq/L
   25 mg/dL
   98 mEq/L
   139 mEq/L
   30.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2102-2-16**]  02:19 PM
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
                             [**2102-2-17**]  03:06 PM
                             [**2102-2-17**]  06:30 PM
                             [**2102-2-17**]  06:59 PM
                             [**2102-2-18**]  05:00 AM
                             [**2102-2-18**]  05:18 AM
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
   WBC
   5.3
   5.7
   5.9
   Hct
   25.9
   28.6
   29.0
   30.1
   31.8
   30.4
   Plt
   277
   320
   339
   Cr
   0.8
   0.8
   0.8
   0.9
   TropT
   0.54
   TCO2
   36
   36
   35
   Glucose
   107
   104
   110
   115
   Other labs: PT / PTT / INR:13.6/25.4/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE -- recurrent, s/p extubation attampts x2.
   Multifactorial  (new pneumonia, right hemidiaphragm elevation, likely
   due to prior surgical resection & volume loss).  Continue mechanical
   ventilation, monitor ABG.  Plan for Trach. on Monday (in OR).
   Antimicrobials --> Vanco, Cefopime.
   PNEUMONIA -- VAP, Klebsiella (EBSL) --> adjust antimicrobials, maintain
   precautions.
   Right HILAR LUNG MASS -- need to have f/u dedicated Thoracic CT once
   infections resolved.
   INFRARENAL ANEURYSM -- 3 cm.  Incidental finding.  Needs f/u, perhaps
   US.  COntrol BP (beta-blocker)
   LEFT U-P Junction Obstruction -- will need US follow-up, to determine
   if anatomical.
   NSTEMI -- occured in context of resp. distress, rather than primary
   event.  Plan continue medical [**Last Name (LF) 6752**], [**First Name3 (LF) **], statin, transfuse to >27
   Hct.  Stable.
   FLUIDS -- desire net negative fluid balance.  Received iv fluids for
   hypotension yesterday.  Resume net diuresis.
   HEMATURIA -- recurrent.  [**Month (only) 51**] be related to recent finding at LEFT U-P
   junction --> Urology to reevaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime.
   NUTRITIONAL SUPPORT -- TF; plan for PEG Monday.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   Plan to move to screening for respiratory rehab facility.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Pt. Is critically ill
   Total time spent: 35 minutes

2102-02-19 17:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   24 Hour Events:
   Sputum Cx grew Klebsiella [** 1899**]
   Started meropenem day 1=[**2-18**]
   IP->trach in OR monday
   CT to eval for ventral hernia for PEG read pending
   Started low dose PO BB to optimize medical regimen
   Diuresed 1200cc at bedtime
   Updated family, ok w/ PEG/Trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-19**] 07:50 AM
   Cefipime - [**2102-2-19**] 07:50 AM
   Meropenem - [**2102-2-19**] 02:19 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-19**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-19**] 05:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 79 (54 - 92) bpm
   BP: 151/75(105) {104/44(62) - 159/75(106)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,355 mL
                                                                  1,231 mL
   PO:
             TF:
                                                                  1,208 mL
                                                                    408 mL
   IVF:
                                                                  1,087 mL
                                                                    823 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    795 mL
   Urine:
                                                                  3,720 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,365 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 479 (374 - 479) mL
   PS : 15 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: 7.41/54/111/34/8
   Ve: 7.6 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Gen: Lethargic, sedated, following commands
   Heart: RRR, distant heart sounds
   Lungs: Mild rhonchi anterolaterally
   Abd: Soft, NT, ND, BS+
   Ext: Trace LE edema, trace sacral edema
   Labs / Radiology
   339 K/uL
   10.2 g/dL
   115 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.6 mEq/L
   25 mg/dL
   98 mEq/L
   139 mEq/L
   30.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2102-2-16**]  02:19 PM
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
                             [**2102-2-17**]  03:06 PM
                             [**2102-2-17**]  06:30 PM
                             [**2102-2-17**]  06:59 PM
                             [**2102-2-18**]  05:00 AM
                             [**2102-2-18**]  05:18 AM
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
   WBC
   5.3
   5.7
   5.9
   Hct
   25.9
   28.6
   29.0
   30.1
   31.8
   30.4
   Plt
   277
   320
   339
   Cr
   0.8
   0.8
   0.8
   0.9
   TropT
   0.54
   TCO2
   36
   36
   35
   Glucose
   107
   104
   110
   115
   Other labs: PT / PTT / INR:13.6/25.4/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   [**2-18**] CT Abd
   IMPRESSION:
   1. Choledocholithiasis with numerous calcified stones within the distal
   common bile duct. No intra- or extra-hepatic biliary duct dilatation.
   ERCP
   would be beneficial for removal.
   2. Moderate left pleural effusion, trace right pleural effusion.
   3. Rectus diastasis without ventral hernia.
   4. Infrarenal abdominal aortic aneurysm 3 cm.
   5. Left UPJ obstruction versus multiple parapelvic cysts. Further
   evaluation
   may be obtained with ultrasound on a nonurgent basis as indicated.
   6. Soft tissue in the right hilar region in the post surgical bed for
   lung
   carcinoma may reflect standard post surgical change however recurrence
   cannot
   be excluded on this non-contrast enhanced study. Right pleural
   thickening
   could also be properly evaluated if concern for recurrence exists.
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   # NSTEMI: Ce
s peaked and trending downward.   A-line in place.
   Patient hemodynamically stable.
             -    Cont ASA 325mg daily
   -          Cont Simvastatin 80mg daily
   -          Continue BB
   -          Monitor this afternoon to see if patient needs diruesis.
   # Ventilator Associated Pneumonia:  K. pneumoniae grew from sputum,
   appears to be [**Last Name (LF) 1899**], [**First Name3 (LF) **] start empirically on meropenem.  Blood
   cultures negative to date.  Pending Meropenem sensitivities.
   - F/u blood cultures
   -          Continue meropenem and vancomycin
   -          Consider tobramycin or gent until sensitivities return but
   aminoglycosides have poor lung penetration.
   -          Culture if spikes
   -
   # Respiratory failure:  Patient currently intubated. Has failed
   extubation twice.
   -          Trach/PEG on Monday, consult with  IP in light of CT Abdomen
   findings to see if they prefer General Surgery to perform procedure.
   -          d/w  family about eventual goals of care.
   # Psueudomonas UTI:  Day [**3-23**], initially started on cipro, then cefepime
   now on meropenem for [**Month/Day (4) 1899**] klebs in sputum will also cover psuedamonas.
   -          Meropenem
   # Hematuria:  Resolved.    CT showed Left UPJ obstruction versus
   multiple parapelvic cysts, which may be etiology of patient
   hematuria, versus Pseudomonas UTI.
   - Monitor
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   # Choledocholithiasis without ductal dilation:  Incidental finding on
   CT abdomen.  If patient becomes febrile, will have to consider possible
   biliary source of infection.
   - Monitor.
   BPH: Foley in place
   PPx: SubQ heparin, bowel reg
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-20 12:01:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2102-2-19**] 07:50 AM
   Meropenem - [**2102-2-20**] 04:30 AM
   Vancomycin - [**2102-2-20**] 07:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-19**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-20**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-20**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 66 (61 - 87) bpm
   BP: 127/67(89) {95/47(67) - 151/75(105)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,548 mL
                                                                    499 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                     10 mL
   IVF:
                                                                  1,294 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    365 mL
   Urine:
                                                                  1,140 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,408 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 649 (449 - 649) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   366 K/uL
   98 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.3 mEq/L
   26 mg/dL
   98 mEq/L
   137 mEq/L
   31.2 %
   5.2 K/uL
        [image002.jpg]
                             [**2102-2-16**]  09:55 PM
                             [**2102-2-17**]  04:00 AM
                             [**2102-2-17**]  03:06 PM
                             [**2102-2-17**]  06:30 PM
                             [**2102-2-17**]  06:59 PM
                             [**2102-2-18**]  05:00 AM
                             [**2102-2-18**]  05:18 AM
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
   WBC
   5.3
   5.7
   5.9
   5.2
   Hct
   28.6
   29.0
   30.1
   31.8
   30.4
   31.2
   Plt
   277
   320
   339
   366
   Cr
   0.8
   0.8
   0.8
   0.9
   0.9
   TropT
   0.54
   TCO2
   36
   36
   35
   Glucose
   107
   104
   110
   115
   98
   Other labs: PT / PTT / INR:13.2/24.3/1.1, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE -- recurrent, s/p extubation attampts x2.
   Multifactorial  (new pneumonia, right hemidiaphragm elevation, likely
   due to prior surgical resection & volume loss), poor gag.  Continue
   mechanical ventilation, monitor ABG.  Plan for Trach. (in OR).
   Antimicrobials --> Vanco, Meripenem.
   PNEUMONIA -- VAP, Klebsiella (EBSL) --> adjust antimicrobials, maintain
   precautions.
   NSTEMI -- occured in context of resp. distress, rather than primary
   event.  Plan continue medical [**Last Name (LF) 6752**], [**First Name3 (LF) **], statin, transfuse to >27
   Hct.  Stable.  Await resolution prior to Trach/PEG.
   FLUIDS -- desire net negative fluid balance.  Received iv fluids for
   hypotension yesterday.  Resume net diuresis.
   Right HILAR LUNG MASS -- need to have f/u dedicated Thoracic CT once
   infections resolved.
   INFRARENAL ANEURYSM -- 3 cm.  Incidental finding.  Needs f/u, perhaps
   US.  COntrol BP (beta-blocker)
   LEFT U-P Junction Obstruction -- will need US follow-up, to determine
   if anatomical.
   HEMATURIA -- recurrent.  [**Month (only) 51**] be related to recent finding at LEFT U-P
   junction --> Urology to reevaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime --> completed.
   NUTRITIONAL SUPPORT -- TF; plan for PEG Monday.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   CHOLEDOCHOLITHIASIS -- asymptomatic.
   Plan to move to screening for respiratory rehab facility.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-22 12:25:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedated.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-20**] 08:00 PM
   Meropenem - [**2102-2-22**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2102-2-21**] 02:30 PM
   Furosemide (Lasix) - [**2102-2-21**] 06:32 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-21**] 09:13 PM
   Pantoprazole (Protonix) - [**2102-2-21**] 09:14 PM
   Midazolam (Versed) - [**2102-2-22**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-22**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 66 (60 - 83) bpm
   BP: 138/69(95) {92/41(57) - 150/71(96)} mmHg
   RR: 15 (15 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,978 mL
                                                                  1,188 mL
   PO:
             TF:
                                                                  1,139 mL
                                                                    604 mL
   IVF:
                                                                    680 mL
                                                                    454 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                    410 mL
   Urine:
                                                                  2,790 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -812 mL
                                                                    778 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 352 (352 - 473) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.40/57/101/32/7
   Ve: 6.7 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   367 K/uL
   105 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.5 mEq/L
   28 mg/dL
   95 mEq/L
   136 mEq/L
   32.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2102-2-17**]  06:59 PM
                             [**2102-2-18**]  05:00 AM
                             [**2102-2-18**]  05:18 AM
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
   WBC
   5.7
   5.9
   5.2
   6.7
   6.1
   Hct
   31.8
   30.4
   31.2
   32.7
   32.4
   Plt
   [**Telephone/Fax (3) 6819**]79
   367
   Cr
   0.8
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   36
   36
   35
   37
   Glucose
   110
   115
   98
   95
   112
   105
   Other labs: PT / PTT / INR:13.2/24.3/1.1, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESPIRATORY FAILURE, ACUTE -- recurrent, s/p extubation attampts x2.
   Multifactorial  (new pneumonia, right hemidiaphragm elevation, likely
   due to prior surgical resection & volume loss), poor gag.  Continue
   mechanical ventilation, monitor ABG.  Plan for Trach. (in OR).
   Antimicrobials --> Vanco, Meripenem.
   PNEUMONIA -- VAP, Klebsiella (EBSL) --> adjust antimicrobials, maintain
   precautions.
   NSTEMI -- occured in context of resp. distress, rather than primary
   event.  Plan continue medical [**Last Name (LF) 6752**], [**First Name3 (LF) **], statin, transfuse to >27
   Hct.  Stable.  Cardiology consultation to assess surgical risk.   Await
   resolution prior to Trach/PEG.
   FLUIDS -- desire net negative fluid balance.  Received iv fluids for
   hypotension yesterday.  Resume net diuresis.
   Right HILAR LUNG MASS -- need to have f/u dedicated Thoracic CT once
   infections resolved.
   INFRARENAL ANEURYSM -- 3 cm.  Incidental finding.  Needs f/u, perhaps
   US.  COntrol BP (beta-blocker)
   LEFT U-P Junction Obstruction -- will need US follow-up, to determine
   if anatomical.
   HEMATURIA -- recurrent.  [**Month (only) 51**] be related to recent finding at LEFT U-P
   junction --> Urology to reevaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime --> completed.
   NUTRITIONAL SUPPORT -- TF; plan for PEG Monday.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   CHOLEDOCHOLITHIASIS -- asymptomatic.
   Plan to move to screening for respiratory rehab facility.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-22**] 10:27 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-23 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2102-2-22**] 03:00 PM
   per cards to evaluate LV pre-op
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-20**] 08:00 PM
   Meropenem - [**2102-2-23**] 04:33 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2102-2-22**] 02:20 PM
   Pantoprazole (Protonix) - [**2102-2-22**] 08:41 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-22**] 08:41 PM
   Furosemide (Lasix) - [**2102-2-23**] 03:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-23**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 60 (58 - 83) bpm
   BP: 136/57(84) {88/39(55) - 138/71(95)} mmHg
   RR: 22 (6 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.4 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,357 mL
                                                                    475 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    100 mL
   IVF:
                                                                    877 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                  1,465 mL
   Urine:
                                                                  1,650 mL
                                                                  1,465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    707 mL
                                                                   -990 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (352 - 580) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   10.4 g/dL
   95 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.0 mEq/L
   30 mg/dL
   95 mEq/L
   137 mEq/L
   30.9 %
   5.9 K/uL
        [image002.jpg]
                             [**2102-2-18**]  05:18 AM
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
   WBC
   5.9
   5.2
   6.7
   6.1
   5.9
   Hct
   30.4
   31.2
   32.7
   32.4
   30.9
   Plt
   [**Telephone/Fax (3) 6864**]67
   333
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   36
   35
   37
   Glucose
   115
   98
   95
   112
   105
   90
   95
   Other labs: PT / PTT / INR:13.1/25.2/1.1, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   #Respiratory failure: [**12-19**] PNA initially now with failed extubation [**12-19**]
   copious secretions and new klebsiella VAP.   Vanco d/c on [**2102-2-21**].  Last
   dose cefepime on [**2102-2-19**].
   - Continue meropenem now day [**3-24**]
   - Diurese goal negative 1L, got lasix 20 IV x1 today
   - f/u blood cultures- still pending
   - culture if spikes
   - Plan for trach and PEG, timing per IP likely Thursday or Fri
   -Cards saw pt today and ok to go to OR but ordering echo to look for LV
   dysfx 1^st
   -keep A line for now
   -change sedation to propofol in anticipation of OR will wean fentanyl
   and versed
   #constipation: Resolved
   - continue bowel regimen
   #CAD s/p NSTEMI
   - Medication regimen optimized w/ BB, ASA, ACEI, statin
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   # Choledocholithiasis without ductal dilation:  Incidental finding on
   CT abdomen.  If patient becomes febrile, will have to consider possible
   biliary source of infection.
   - Monitor abdominal exam
   BPH: Foley in place
   PPx: SubQ heparin, bowel reg increased
   FEN: repleated Mg
   -afternoon lytes
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-23 12:43:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-20**] 08:00 PM
   Meropenem - [**2102-2-23**] 04:33 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2102-2-22**] 02:20 PM
   Pantoprazole (Protonix) - [**2102-2-22**] 08:41 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-22**] 08:41 PM
   Furosemide (Lasix) - [**2102-2-23**] 03:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**11-18**] Minimal
   Flowsheet Data as of  [**2102-2-23**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 65 (58 - 79) bpm
   BP: 99/62(79) {88/39(55) - 136/71(88)} mmHg
   RR: 26 (6 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,357 mL
                                                                    661 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    100 mL
   IVF:
                                                                    877 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                  2,305 mL
   Urine:
                                                                  1,650 mL
                                                                  2,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    707 mL
                                                                 -1,644 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (378 - 580) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: ///35/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   333 K/uL
   95 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.0 mEq/L
   30 mg/dL
   95 mEq/L
   137 mEq/L
   30.9 %
   5.9 K/uL
        [image002.jpg]
                             [**2102-2-18**]  05:18 AM
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
   WBC
   5.9
   5.2
   6.7
   6.1
   5.9
   Hct
   30.4
   31.2
   32.7
   32.4
   30.9
   Plt
   [**Telephone/Fax (3) 6864**]67
   333
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   36
   35
   37
   Glucose
   115
   98
   95
   112
   105
   90
   95
   Other labs: PT / PTT / INR:13.1/25.2/1.1, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia (VAP).
   RESPIRATORY FAILURE, ACUTE -- recurrent, s/p extubation attampts x2.
   Multifactorial  (new pneumonia, right hemidiaphragm elevation, likely
   due to prior surgical resection & volume loss), poor gag.  Continue
   mechanical ventilation, monitor ABG.  Plan for Trach. (in OR).
   Antimicrobials --> Vanco, Meripenem.
   PNEUMONIA -- VAP, Klebsiella (EBSL) --> adjust antimicrobials, maintain
   precautions.
   NSTEMI -- occured in context of resp. distress, rather than primary
   event.  Plan continue medical [**Last Name (LF) 6752**], [**First Name3 (LF) **], statin, transfuse to >27
   Hct.  Stable.  Cardiology consultation to assess surgical risk.   Await
   resolution prior to Trach/PEG.
   FLUIDS -- desire net negative fluid balance.  Received iv fluids for
   hypotension yesterday.  Resume net diuresis.
   Right HILAR LUNG MASS -- need to have f/u dedicated Thoracic CT once
   infections resolved.
   INFRARENAL ANEURYSM -- 3 cm.  Incidental finding.  Needs f/u, perhaps
   US.  COntrol BP (beta-blocker)
   LEFT U-P Junction Obstruction -- will need US follow-up, to determine
   if anatomical.
   HEMATURIA -- recurrent.  [**Month (only) 51**] be related to recent finding at LEFT U-P
   junction --> Urology to reevaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime --> completed.
   NUTRITIONAL SUPPORT -- TF; plan for PEG Monday.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   CHOLEDOCHOLITHIASIS -- asymptomatic.
   Plan to move to screening for respiratory rehab facility.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-24 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   24 Hour Events:
   -gen [**Doctor First Name 213**] will take pt for trach and peg. they are trying to schedule
   OR time for sometime in the next 2 days.  they are aware how long the
   pt has waited.
   -NPO past MN in case he gets trach and peg on 10th
   -captopril increased to maximize cardiac benefit
   -discontinued scopolamine patch
   -weaned sedation and pt more alert
   -500cc bolus x1 for MAP 60-81 and responded to the volume
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-24**] 04:21 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-23**] 08:51 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-23**] 08:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-24**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 63 (56 - 79) bpm
   BP: 154/71(103) {85/45(60) - 154/76(103)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,551 mL
                                                                    326 mL
   PO:
             TF:
                                                                    652 mL
   IVF:
                                                                  1,609 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    360 mL
   Urine:
                                                                  3,075 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -524 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 341 (331 - 409) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 8.5 L/min
   Physical Examination
   Gen: Sedated vent, follows commands
   Heart: RRR, distant heart sounds
   Lungs: CTA anteriorly
   Abd: Obese, BS+, Soft
   Ext: Trace edema, pedal pulses 2+
   Labs / Radiology
   314 K/uL
   10.2 g/dL
   89 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   29 mg/dL
   99 mEq/L
   141 mEq/L
   30.8 %
   5.3 K/uL
        [image002.jpg]
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
   WBC
   5.9
   5.2
   6.7
   6.1
   5.9
   5.3
   Hct
   30.4
   31.2
   32.7
   32.4
   30.9
   30.8
   Plt
   [**Telephone/Fax (3) 6864**]67
   333
   314
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   35
   37
   Glucose
   115
   98
   95
   112
   105
   90
   95
   89
   Other labs: PT / PTT / INR:13.6/25.2/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   #Respiratory failure: Now treating VAP day [**5-24**]. Has failed extubation
   x2 secondary to secretions.  Last dose cefepime on [**2102-2-19**]. Has been
   significantly diuresed in past week.  Still many oral secretions but
   not more after d/c scopolamine
   - Continue meropenem now day [**5-24**]
   - f/u blood cultures- still pending & culture if spikes
   - Plan for trach and PEG, timing per IP  and Gsurg to do PEG, need to
   be contact[**Name (NI) **] today to clarify that needs to be done in OR
   -keep A line for now
   -pt
s sedation is propofol in anticipation of trach and peg, NPO past
   MN
   - continue ipratropium
   .
   #constipation: Resolved
   - continue bowel regimen
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, ASA, ACEI, statin
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   # Choledocholithiasis without ductal dilation:  Incidental finding on
   CT abdomen.  If patient becomes febrile, will have to consider possible
   biliary source of infection.
   - Monitor abdominal exam
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: no lytes needing repletion today. Will only check labs tomorrow if
   going to OR.
   .
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2102-02-24 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Experienced transient hypotension last PM, responded to iv fluid bolus
   x1.
   Remains on Propofol for sedation.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-24**] 10:15 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-23**] 08:51 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-24**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-24**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 57 (56 - 79) bpm
   BP: 134/61(87) {85/45(60) - 154/76(103)} mmHg
   RR: 21 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,551 mL
                                                                    548 mL
   PO:
             TF:
                                                                    652 mL
   IVF:
                                                                  1,609 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    440 mL
   Urine:
                                                                  3,075 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -524 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (331 - 409) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   314 K/uL
   89 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   29 mg/dL
   99 mEq/L
   141 mEq/L
   30.8 %
   5.3 K/uL
        [image002.jpg]
                             [**2102-2-19**]  03:00 AM
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
   WBC
   5.9
   5.2
   6.7
   6.1
   5.9
   5.3
   Hct
   30.4
   31.2
   32.7
   32.4
   30.9
   30.8
   Plt
   [**Telephone/Fax (3) 6864**]67
   333
   314
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   35
   37
   Glucose
   115
   98
   95
   112
   105
   90
   95
   89
   Other labs: PT / PTT / INR:13.6/25.2/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia (VAP).
   RESPIRATORY FAILURE, ACUTE -- recurrent, s/p extubation attampts x2.
   Multifactorial  (new pneumonia, right hemidiaphragm elevation, likely
   due to prior surgical resection & volume loss), poor gag.  Continue
   mechanical ventilation, monitor ABG.  Plan for Trach. (in OR).
   Antimicrobials --> Vanco, Meripenem.
   PNEUMONIA -- VAP, Klebsiella (EBSL) --> adjust antimicrobials, maintain
   precautions.  Complete full course.
   NSTEMI -- occured in context of resp. distress, rather than primary
   event.  Plan continue medical [**Last Name (LF) 6752**], [**First Name3 (LF) **], statin, transfuse to >27
   Hct.  Stable.  Cardiology consultation to assess surgical risk.   Await
   resolution prior to Trach/PEG.
   FLUIDS -- desire net negative fluid balance.  Received iv fluids for
   hypotension yesterday.  Resume net diuresis.
   Right HILAR LUNG MASS -- need to have f/u dedicated Thoracic CT once
   infections resolved.
   INFRARENAL ANEURYSM -- 3 cm.  Incidental finding.  Needs f/u, perhaps
   US.  COntrol BP (beta-blocker)
   LEFT U-P Junction Obstruction -- will need US follow-up, to determine
   if anatomical.
   HEMATURIA -- recurrent.  [**Month (only) 51**] be related to recent finding at LEFT U-P
   junction --> Urology to reevaluate.
   HTN -- adjusting PO meds.
   UTI -- borderline MIC to zosyn --> cefopime --> completed.
   NUTRITIONAL SUPPORT -- TF; plan for PEG Monday.
   ANEMIA -- hemorrhagic, hematuria.  Unclear underlying pathology.  s/p
   transfusion.
   CHOLEDOCHOLITHIASIS -- asymptomatic.
   Plan to move to screening for respiratory rehab facility.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-25 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  77 yo M w/ respiratory failure w/ VAP and NSTEMI
   24 Hour Events:
   Trached
   Thoracics to do PEG on Monday
   To d/c Abx tomorrow [**2-25**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-25**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 56 (56 - 80) bpm
   BP: 124/52(77) {88/40(57) - 173/89(125)} mmHg
   RR: 18 (0 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,095 mL
                                                                    524 mL
   PO:
             TF:
             255 mL
   IVF:
                                                                  1,055 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    300 mL
   Urine:
                                                                  1,230 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 386 (329 - 463) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 130
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 7 L/min
   Physical Examination
   Gen: Sedated vent, follows commands
   Heart: RRR, distant heart sounds
   Lungs: CTA anteriorly
   Abd: Obese, BS+, Soft
   Ext: Trace edema, pedal pulses 2+
   Labs / Radiology
   261 K/uL
   10.6 g/dL
   89 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   26 mg/dL
   99 mEq/L
   142 mEq/L
   32.0 %
   5.0 K/uL
        [image002.jpg]
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
   WBC
   5.2
   6.7
   6.1
   5.9
   5.3
   5.0
   Hct
   31.2
   32.7
   32.4
   30.9
   30.8
   32.0
   Plt
   366
   379
   367
   333
   314
   261
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   35
   37
   Glucose
   98
   95
   112
   105
   90
   95
   89
   89
   Other labs: PT / PTT / INR:13.6/25.2/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   #Respiratory failure: Now treating VAP day [**5-24**]. Has failed extubation
   x2 secondary to secretions.  Last dose cefepime on [**2102-2-19**]. Has been
   significantly diuresed in past week.  Still many oral secretions but
   not more after d/c scopolamine
   - Continue meropenem now day [**5-24**]
   - f/u blood cultures- still pending & culture if spikes
   - Plan for trach and PEG, timing per IP  and Gsurg to do PEG, need to
   be contact[**Name (NI) **] today to clarify that needs to be done in OR
   -keep A line for now
   -pt
s sedation is propofol in anticipation of trach and peg, NPO past
   MN
   - continue ipratropium
   .
   #constipation: Resolved
   - continue bowel regimen
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, ASA, ACEI, statin
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   # Choledocholithiasis without ductal dilation:  Incidental finding on
   CT abdomen.  If patient becomes febrile, will have to consider possible
   biliary source of infection.
   - Monitor abdominal exam
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: no lytes needing repletion today. Will only check labs tomorrow if
   going to OR.
   .
   Code: Full
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-25**] 01:46 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-25 13:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo male with hx NSCLCa, hx DVT admitted with penumonia with ongoing
   resp failure-. Course also notable for Pseudoonal UTI, NSTEMI, ESBL VAP
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2102-2-24**] 01:30 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-25**] 10:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-25**] 08:05 AM
   Other medications:
   pantoprazole, levothyroxine, combivent, colace, [**Last Name (LF) 1773**], [**First Name3 (LF) **], lipitor,
   lopressor, captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-25**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 68 (56 - 80) bpm
   BP: 147/66(93) {106/49(69) - 175/89(125)} mmHg
   RR: 20 (0 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,095 mL
                                                                  1,173 mL
   PO:
             TF:
             569 mL
   IVF:
                                                                  1,055 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    980 mL
   Urine:
                                                                  1,230 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 457 (335 - 463) mL
   PS : 14 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 130
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   OG tube, trach'd
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, +bowel sounds
   Ext: bilateral boots
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: touch, Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   261 K/uL
   89 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   26 mg/dL
   99 mEq/L
   142 mEq/L
   32.0 %
   5.0 K/uL
        [image002.jpg]
                             [**2102-2-19**]  08:00 AM
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
   WBC
   5.2
   6.7
   6.1
   5.9
   5.3
   5.0
   Hct
   31.2
   32.7
   32.4
   30.9
   30.8
   32.0
   Plt
   366
   379
   367
   333
   314
   261
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   35
   37
   Glucose
   98
   95
   112
   105
   90
   95
   89
   89
   Other labs: PT / PTT / INR:13.6/25.2/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:52/27, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 URINARY TRACT INFECTION (UTI)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   77 yo male with NSCLCa s/p resection in [**2097**], hx DVT admitted with
   acute respiratory failure from pneumonia. Course complicated by
   Pseuomonas UTI, NSTEMI, ESBL VAP and ongoing respiratory failure
   *Acute respiratory failure
   Trach
d yesterday
   Remains on PS ventilation- wean as tolerated
   Add prn morphine for pain, which may enable propofol gtt to be weaned
   down
   PEG to be done in the upcoming week
   *NSTEMI: Felt to be from a demand phenomenon with no recent s/sx of
   ischemia:: on [**Year (4 digits) 5**], beta blocker
   *VAP: no fevers/leukocytosis to suggest recurrent infection.  Plan 8
   day total course of [**Last Name (LF) 6900**], [**First Name3 (LF) **] will d/c Merepenem today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-25**] 01:46 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Arterial Line - [**2102-2-17**] 04:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-26 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   24 Hour Events:
   D/C'ed A-Line
   Peg to happen monday?
   Sedation is morphine prn, with goal to wean propofol as tolerated
   d/c'ed ABX
   Didn't tolerate pressure support trial for long
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-25**] 10:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-25**] 08:00 PM
   Morphine Sulfate - [**2102-2-26**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: squeezes my hand + for pain at trach site
   Flowsheet Data as of  [**2102-2-26**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 65 (54 - 78) bpm
   BP: 127/62(78) {91/41(55) - 145/98(105)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,231 mL
                                                                    581 mL
   PO:
             TF:
                                                                  1,113 mL
                                                                    337 mL
   IVF:
                                                                    938 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    210 mL
   Urine:
                                                                  1,600 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    631 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (400 - 648) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6 L/min
   Physical Examination
   Gen: alert, able to squeeze my hands
   Cardiac: distant heart sounds, rrr, nl s1/s2 no m/r/g
   Pulm: CTAB anteriorly with decreased breath sounds on lower lateral
   aspect of right lung
   Abd: soft NTND
   Extremities: radial pulses 1+, DP pulses 1+, mild LE edema
   Labs / Radiology
   246 K/uL
   10.1 g/dL
   100 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   28 mg/dL
   102 mEq/L
   143 mEq/L
   30.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
   WBC
   5.2
   6.7
   6.1
   5.9
   5.3
   5.0
   5.1
   Hct
   31.2
   32.7
   32.4
   30.9
   30.8
   32.0
   30.5
   Plt
   366
   379
   367
   333
   314
   261
   246
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   37
   Glucose
   98
   95
   112
   105
   90
   95
   89
   89
   100
   Other labs: PT / PTT / INR:13.6/25.2/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   #Respiratory failure:  Stable.  Now s/p Trach.  Finished VAP treatment
   with meropenem on [**2-25**] (had 8 day course).  Tolerated several hours of
   pressure support overnight.
   - f/u blood cultures- still pending & culture if spikes
   - Plan PEG by  Dr. [**Last Name (STitle) 2233**] in gen [**Doctor First Name 213**] on [**2-28**]
   -pt
s sedation is propofol, wean as tolerated (down to 20 from 30 this
   AM)
   - continue ipratropium
   .
   #constipation: Resolved
   - continue bowel regimen
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, ASA, ACEI, statin
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   # Choledocholithiasis without ductal dilation:  Incidental finding on
   CT abdomen.  If patient becomes febrile, will have to consider possible
   biliary source of infection.
   - Monitor abdominal exam
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Continue NG Tube feeds. NPO past MN on evening of [**2-27**] for PEG on
   [**2-28**].  No labs for tomorrow but will get labs prior to pt going to OR.
   .
   Code: Full
   ICU Care
   Nutrition: tube feeds  to get peg placed on [**2-28**]
   Nutren Pulmonary (Full) - [**2102-2-26**] 06:31 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: hep sc TID
   Stress ulcer: pantoprazole
   VAP:  tx completed [**2-25**]
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2102-02-26 12:08:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo male with hx NSCLCa, hx DVT admitted with pneumonia/respiratory
   failure, course complicated by ESBL pneumnia and NSTEMI with ongoing
   respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2102-2-26**] 12:00 AM
   History obtained from Medical records, ICU  housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-25**] 10:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2102-2-26**] 12:35 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-26**] 08:00 AM
   Other medications:
   pantoprazole, levothyroxine, inhalers, heparin, ASA, simvastatin,
   captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-26**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 66 (54 - 78) bpm
   BP: 128/59(76) {91/41(55) - 145/98(105)} mmHg
   RR: 19 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  2,231 mL
                                                                    962 mL
   PO:
             TF:
                                                                  1,113 mL
                                                                    595 mL
   IVF:
                                                                    938 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    510 mL
   Urine:
                                                                  1,600 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    631 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 694 (400 - 923) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right base), trach
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  normal turgor
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   246 K/uL
   100 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   28 mg/dL
   102 mEq/L
   143 mEq/L
   30.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
   WBC
   5.2
   6.7
   6.1
   5.9
   5.3
   5.0
   5.1
   Hct
   31.2
   32.7
   32.4
   30.9
   30.8
   32.0
   30.5
   Plt
   366
   379
   367
   333
   314
   261
   246
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   37
   Glucose
   98
   95
   112
   105
   90
   95
   89
   89
   100
   Other labs: PT / PTT / INR:13.6/25.2/1.2, CK / CKMB /
   Troponin-T:37/5/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 URINARY TRACT INFECTION (UTI)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   77 yo male with hx NSCLCa s/p [**2097**] resection, Hx of DVT on coumadin-
   admitted with acute respiratory failure/PNA with persistent failure
   from ESBL VAP pna and NSTEMI. Trach
d [**2102-2-24**].
   1.       Acute respiratory failure:
   Continues on PS ventilation today
   Possible PEG tomorrow
   Wean propofol sedation as tolerated
   On alb/atrovent
   Has finished course of abx for ESBL PNA
   2.       Constipation: on bowel regimen
   3.       Infrarenal aneurysm: needs outpt f/u
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-2-26**] 06:31 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-02-27 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  77 yo M w/ respiratory failure w/ VAP and NSTEMI
   24 Hour Events:
   -plan for peg on [**2-28**] with Dr. [**Last Name (STitle) 2233**]
   [**Name (STitle) 6939**] screening for rehab likely to go home on vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-25**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-26**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-26**] 08:06 PM
   Morphine Sulfate - [**2102-2-26**] 09:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-27**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 52 (50 - 71) bpm
   BP: 114/43(61) {87/39(50) - 144/67(84)} mmHg
   RR: 17 (13 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,819 mL
                                                                    121 mL
   PO:
             TF:
                                                                  1,047 mL
   IVF:
                                                                    602 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                      0 mL
   Urine:
                                                                  1,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    544 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 378 (352 - 694) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.1 L/min
   Physical Examination
   Gen: alert, able to squeeze my hands
   Cardiac: distant heart sounds, rrr, nl s1/s2 no m/r/g
   Pulm: CTAB anteriorly with decreased breath sounds on lower lateral
   aspect of right lung
   Abd: soft NTND
   Extremities: radial pulses 1+, DP pulses 1+, mild LE edema
   Labs / Radiology
   246 K/uL
   10.1 g/dL
   100 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   28 mg/dL
   102 mEq/L
   143 mEq/L
   30.5 %
   5.1 K/uL
        [image002.jpg] These are [**2-26**] labs
                             [**2102-2-20**]  04:12 AM
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
   WBC
   5.2
   6.7
   6.1
   5.9
   5.3
   5.0
   5.1
   Hct
   31.2
   32.7
   32.4
   30.9
   30.8
   32.0
   30.5
   Plt
   366
   379
   367
   333
   314
   261
   246
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   37
   Glucose
   98
   95
   112
   105
   90
   95
   89
   89
   100
   Other labs: Amylase / Lipase:46/48, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   #Respiratory failure:  Stable.  Now s/p Trach.  Finished VAP treatment
   with meropenem on [**2-25**] (had 8 day course).  Tolerated pressure support
   overnight.  Will need to consider causes for patient to not come off
   vent completely if he fails trach mask today.  Could be related to
   sedation versus neuromuscular weakness.
   - Plan PEG by  Dr. [**Last Name (STitle) 2233**] in gen [**Doctor First Name 213**] on [**2-28**]
   - Wean propofol
   - Trial with Trach mask
   - continue ipratropium
   .
   #constipation: Resolved
   - continue bowel regimen
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, ASA, ACEI, statin
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   # Choledocholithiasis without ductal dilation:  Incidental finding on
   CT abdomen.  If patient becomes febrile, will have to consider possible
   biliary source of infection.
   - Monitor abdominal exam
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Continue NG Tube feeds. NPO past MN on evening of [**2-27**] for PEG on
   [**2-28**].
   .
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-28 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   D/c'd sedation
   Using PRN haldol for agitation
   Tried trial trach collar and tolerated for 1.5 hours, got tachypnic and
   tachycardic SPO2 dropped, put back on vent
   Urine benzos positive
   ordered EEG
   NGT replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-25**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-27**] 08:21 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-27**] 08:21 PM
   Haloperidol (Haldol) - [**2102-2-27**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-28**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 79 (62 - 119) bpm
   BP: 148/57(82) {96/30(47) - 156/102(110)} mmHg
   RR: 21 (10 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                    821 mL
                                                                     63 mL
   PO:
             TF:
                                                                     88 mL
   IVF:
                                                                    513 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    360 mL
   Urine:
                                                                  1,205 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -384 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 405 (405 - 800) mL
   PS : 12 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 11.1 L/min
   Physical Examination
   Gen: alert, able to squeeze my hands
   Cardiac: distant heart sounds, rrr, nl s1/s2 no m/r/g
   Pulm: CTAB anteriorly with decreased breath sounds on lower lateral
   aspect of right lung
   Abd: soft NTND
   Extremities: radial pulses 1+, DP pulses 1+, mild LE edema
   Labs / Radiology
   241 K/uL
   11.1 g/dL
   79 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.2 mEq/L
   23 mg/dL
   102 mEq/L
   142 mEq/L
   33.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2102-2-20**]  05:47 PM
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
   WBC
   6.7
   6.1
   5.9
   5.3
   5.0
   5.1
   6.1
   Hct
   32.7
   32.4
   30.9
   30.8
   32.0
   30.5
   33.0
   Plt
   379
   367
   333
   [**Telephone/Fax (3) 6948**]
   241
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   TCO2
   37
   Glucose
   95
   112
   105
   90
   95
   89
   89
   100
   79
   Other labs: PT / PTT / INR:13.7/26.8/1.2, CK / CKMB /
   Troponin-T:69/7/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   #Respiratory failure:  Stable.  Now s/p Trach.  Finished VAP treatment
   with meropenem on [**2-25**] (had 8 day course).  Tolerated pressure support
   overnight.  Will need to consider causes for patient to not come off
   vent completely if he fails trach mask today.  Could be related to
   sedation versus neuromuscular weakness.
   - Plan PEG by  Dr. [**Last Name (STitle) 2233**] in gen [**Doctor First Name 213**] on [**2-28**]
   - Wean propofol
   - Trial with Trach mask
   - continue ipratropium
   .
   #constipation: Resolved
   - continue bowel regimen
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, ASA, ACEI, statin
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   # Choledocholithiasis without ductal dilation:  Incidental finding on
   CT abdomen.  If patient becomes febrile, will have to consider possible
   biliary source of infection.
   - Monitor abdominal exam
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Continue NG Tube feeds. NPO past MN on evening of [**2-27**] for PEG on
   [**2-28**].
   .
   Code: Full
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 URINARY TRACT INFECTION (UTI)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-02 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2102-3-1**] 06:16 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-1**] 04:11 PM
   Pantoprazole (Protonix) - [**2102-3-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-2**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 60 (60 - 86) bpm
   BP: 139/62(82) {94/39(50) - 146/74(91)} mmHg
   RR: 19 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,813 mL
                                                                    565 mL
   PO:
             TF:
   IVF:
                                                                  1,813 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    500 mL
   Urine:
                                                                  1,660 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    153 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 307 (307 - 445) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   9.8 g/dL
   81 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   23 mg/dL
   101 mEq/L
   141 mEq/L
   29.9 %
   5.1 K/uL
        [image002.jpg] [**3-1**] Labs
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
   WBC
   6.7
   6.1
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   Hct
   32.7
   32.4
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   Plt
   379
   367
   333
   [**Telephone/Fax (3) 6948**]
   241
   227
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   TCO2
   37
   Glucose
   112
   105
   90
   95
   89
   89
   100
   79
   81
   Other labs: PT / PTT / INR:13.4/26.9/1.1
   Assessment and Plan
   77 yo M w/ respiratory failure w/ VAP and NSTEMI
   #Respiratory failure:  Stable.  Now s/p Trach.  Appears to have
   muscular weakness as contributor of muscle weakness as cannot pull
   adequate tidal volumes w/o PS and has paradoxical respiration.
   - Neuro consult
   - GI cs for PEG
   - Trial with Trach mask daily
   - continue ipratropium
   - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, ASA, will restart ACEI and statin
   when PEG placed.
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Continue NG Tube feeds. NPO past MN on evening of [**2-27**] for PEG on
   [**2-28**].
   .
   Code: Full
   .
   #Dispo: Hebreb pending PEG tube placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-02 10:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2102-3-1**] 06:16 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-2**] 08:00 AM
   Morphine Sulfate - [**2102-3-2**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-2**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 64 (60 - 84) bpm
   BP: 116/47(64) {94/39(50) - 146/74(88)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,813 mL
                                                                    771 mL
   PO:
             TF:
   IVF:
                                                                  1,813 mL
                                                                    771 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    640 mL
   Urine:
                                                                  1,660 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    153 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (223 - 445) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 5.7 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   227 K/uL
   81 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   23 mg/dL
   101 mEq/L
   141 mEq/L
   29.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
   WBC
   6.7
   6.1
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   Hct
   32.7
   32.4
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   Plt
   379
   367
   333
   [**Telephone/Fax (3) 6948**]
   241
   227
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   TCO2
   37
   Glucose
   112
   105
   90
   95
   89
   89
   100
   79
   81
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:69/7/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   77 yo with h/o lung CA and prolonged hosptial course now with
   persistent ventilatory failure requiring tracheostomy and planning for
   PEG tube placement to allow continued chronic support in place.
   1)Respiratory Failure-barriers to extubation are led by neurmuscular
   weakness, obesity and restriction and will move to continued decrease
   in PSV levels and consider trach mask trial following procedure
   -PSV today
   -A/C for procedures
   -Trial trach mask with recovery from procedure completed.
   Additional issues to be determined as described in housestaff note of
   this date.
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 URINARY TRACT INFECTION (UTI)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
planning for rehab
   Total time spent: 35 minutes

2102-03-03 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   s/p VAP s/p NSTEMI s/p trach and peg
   24 Hour Events:
   Got PEG tube very late at night
   Became tachypnic while on PS and put back on CMV
   No recommendations from neuro
   Pt with type II heart block on telemetry this AM and 4 beats of NSVT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-2**] 08:00 AM
   Metoprolol - [**2102-3-2**] 12:00 PM
   Haloperidol (Haldol) - [**2102-3-2**] 12:30 PM
   Pantoprazole (Protonix) - [**2102-3-2**] 08:50 PM
   Morphine Sulfate - [**2102-3-2**] 11:46 PM
   Fentanyl - [**2102-3-3**] 02:00 AM
   Midazolam (Versed) - [**2102-3-3**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-3**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 60 (56 - 85) bpm
   BP: 94/39(53) {90/33(48) - 155/71(87)} mmHg
   RR: 17 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                  1,800 mL
                                                                     66 mL
   PO:
             TF:
   IVF:
                                                                  1,800 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    220 mL
   Urine:
                                                                  1,935 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 476) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 9 L/min
   Physical Examination
   Gen: not arousable, not responsive to noxious stimuli, PERRL
   Cardiac: distant rrr ns1/s2 no m/r/g
   Pulm: decreased breath sounds at right and left lung base
   Abd: peg in place, dressing dry, + bs, soft, NTND
   Extremities: mild edema in the ankles
   Labs / Radiology
   Free t4 1.5
    mg/dL
    mEq/L
    mEq/L
                             [**2102-2-21**]  03:59 AM
                             [**2102-2-22**]  04:26 AM
                             [**2102-2-22**]  04:49 AM
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
   WBC
   6.7
   6.1
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   Hct
   32.7
   32.4
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   Plt
   379
   367
   333
   [**Telephone/Fax (3) 6948**]
   241
   227
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   TCO2
   37
   Glucose
   112
   105
   90
   95
   89
   89
   100
   79
   81
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:69/7/0.54, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure
   #Respiratory failure:  Stable.  Now s/p Trach.  Previously failed
   extubation due to secretions.  Appears to have muscular weakness as
   contributor of muscle weakness as cannot pull adequate tidal volumes
   w/o PS and has paradoxical respiration.
   - f/u Neuro recommedations no official note yet but they caleld and
   said they believe he has critical illness myopathy
   - start TF on trach tomorrow
   - pressure support trial this AM
   - continue ipratropium
   - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, ASA, will restart ACEI and statin
   .
   # Rhythm: type II heart block on telemetry overnight and seemed to
   correlate with some hypotension to SBP 90s
   -consult EP for ? of pacemaker, would need to discuss with family if he
   would want this
   -hold beta-blocker until IP sees patient
   -cycle CE, will also add on to AM labs
   -get EKG
   .
   # Low grade fever overnight:
   -send urine, sputum, blood cx
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   BPH: Foley in place
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Peg Tube feeds 24 hrs post Peg.
   .
   Code: Full
   .
   #Dispo: Rehab post evaluate by cards and f/y of cultures
   ICU Care
   Nutrition: NPO for now, start tube feeds in AM
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Rehab post evaluate by cards and f/u of cultures

2102-03-04 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   77 yo M w/ respiratory failure s/p VAP s/p trach and peg. Diagnosed
   recently with type II heart block and ICU myopathy.
   24 Hour Events:
   -CE neg x2, CK neg x3, troponin still trending down from before
   -type II heart block is transient, 2 isolated episodes, seen by EP and
   no plan for pacer at this time
   -neuro thinks pt  has ICU myopathy and did an incomplete EMG
   -pt got c-spine study to ensure there is no c-spine lesion contributing
   to  his weakness
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-3**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-4**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.8
   HR: 75 (57 - 97) bpm
   BP: 118/51(68) {94/35(48) - 151/91(97)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                    300 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    110 mL
   Urine:
                                                                  1,200 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -900 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 284 (267 - 409) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.2 L/min
   Physical Examination
   Gen: arousable, following basic commands (wiggling toes and attempting
   to squeeze hands0
   Cardiac: distant rrr ns1/s2 no m/r/g
   Pulm: decreased breath sounds at right and left lung base
   Abd: peg in place, dressing dry, + bs, soft, NTND
   Extremities: mild edema in the ankles
   Neuro: PERRL
   MSk: very weak gripping of hands in UE and able to wiggle both toes
   Labs / Radiology
   196 K/uL
   9.6 g/dL
   71 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg] CK 18 -> 29 ->17 Trop 0.18->0.2
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
                             [**2102-3-3**]  12:22 PM
                             [**2102-3-3**]  08:53 PM
                             [**2102-3-4**]  03:23 AM
   WBC
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   6.5
   Hct
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   29.4
   Plt
   333
   314
   261
   [**Telephone/Fax (3) 7014**]
   196
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   0.20
   Glucose
   90
   95
   89
   89
   100
   79
   81
   71
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:29/3/0.20, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure s/p VAP s/p trach and peg
   #Respiratory failure:  Stable.  Now s/p Trach.  Previously failed
   extubation due to secretions.  Appears to have muscular weakness as
   contributor of muscle weakness.
   - Neuro believes he has critical illness myopathy
   -Got MRI today to ensure he does not have a c-spine lesion contributing
   to his weakness, will f/u read
   - on AC now will change to PS later today but no plan for weaning trial
   today to let pt rest
   - continue ipratropium
   - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB (restarted low dose today), ASA,
   ACEI and statin
   .
   # Rhythm: type II heart block on telemetry overnight on [**3-3**] and seemed
   to correlate with some hypotension to SBP 90s.  EKG today concerning
   for new A fib
   -EP says no plan for pacemaker
   -restarting low dose b-blocker today
   -will speak with cardiology today for new a fib
   .
   # Low grade fever overnight on [**3-3**]: No fever in last 24 hrs. Gram neg
   rods on gram stain no cx back yet.  UA with small leukocytes, sm blood,
   RBC 21, WBC 10, moderate yeast, bacteria negative
   -f/u sputum cx, blood cx
   -change foley for moderate yeast
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   BPH: Foley in place, will change today given yeast in urine
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Peg Tube .  Wll start TF today
   .
   Code: Full
   .
   #Dispo: Rehab post evaluate by cards, f/u of cultures, f/u MRI read
   ICU Care
   Nutrition: start tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Possibly rehab post evaluate by cards, f/u of cultures,
   f/u MRI read

2102-03-04 11:46:00 Physician Attending Progress Note
Chief Complaint: 77 yr old man with hx of Lung CA with partial
   radiation Rx and resection in the last year
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated on admit for obtundation. Failed extubation X 2 complicated
   by NSTEMI. Trach/PEG planning on transferring to rehab.
   24 Hour Events:
 PAN CULTURE - At [**2102-3-3**] 12:36 PM
   Brief run of 2:1 AV Nodal Block
   Had mild cardiac enzyme elevations
   ? new versus trending down from prior event
   History obtained from Medical records
   Patient unable to provide history: trach'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-3**] 11:00 PM
   Other medications:
   [**Last Name (LF) 7028**], [**First Name3 (LF) 5**], levothyrox, senna, captopril, simvastatin, docusate,
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-4**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 71 (60 - 97) bpm
   BP: 118/49(64) {94/35(48) - 151/91(97)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
             Total In:
                                                                    300 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    280 mL
   Urine:
                                                                  1,200 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -900 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 284 (267 - 409) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: both bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal, cogwheeling
   Labs / Radiology
   9.6 g/dL
   196 K/uL
   71 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
                             [**2102-3-3**]  12:22 PM
                             [**2102-3-3**]  08:53 PM
                             [**2102-3-4**]  03:23 AM
   WBC
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   6.5
   Hct
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   29.4
   Plt
   333
   314
   261
   [**Telephone/Fax (3) 7014**]
   196
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   0.20
   Glucose
   90
   95
   89
   89
   100
   79
   81
   71
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.20, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure
   #Respiratory failure:  Stable.  Now s/p Trach.  Previously failed
   extubation due to secretions.  Appears to have muscular weakness as
   contributor of muscle weakness as cannot pull adequate tidal volumes
   w/o PS and has paradoxical respiration.
   -Hold on weaning pending transfer to rehab - do not want to run risk of
   another cardiac event
   - f/u Neuro recommedations no official note yet but they caleld and
   said they believe he has critical illness myopathy.
   - Had MRI per neuro to assess for other causes of weakness
   - start TF on trach tomorrow
   - continue ipratropium
   - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, [**Telephone/Fax (3) **], will restart ACEI and statin
   - R/o'd by enzymes for new NSTEMI
   # Rhythm: type II heart block on telemetry overnight and seemed to
   correlate with some hypotension to SBP 90s
   -consult EP for ? of pacemaker, would need to discuss with family if he
   would want this
   # Low grade fever overnight:
   -send urine, sputum, blood cx
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   BPH: Foley in place
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 45 minutes
   Patient is critically ill

2102-03-05 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Per cards stopped beta blocker for type II 2^nd degree heart block
   Developed a-fib
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-5**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 76 (58 - 76) bpm
   BP: 122/53(70) {94/33(49) - 143/74(132)} mmHg
   RR: 21 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
                  Total In:
                                                                    947 mL
                                                                    284 mL
   PO:
                  TF:
                                                                    205 mL
                                                                    224 mL
   IVF:
                                                                    682 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    245 mL
   Urine:
                                                                    645 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    302 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 445 (377 - 498) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   196 K/uL
   9.6 g/dL
   71 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
                             [**2102-3-3**]  12:22 PM
                             [**2102-3-3**]  08:53 PM
                             [**2102-3-4**]  03:23 AM
   WBC
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   6.5
   Hct
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   29.4
   Plt
   333
   314
   261
   [**Telephone/Fax (3) 7014**]
   196
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   0.20
   Glucose
   90
   95
   89
   89
   100
   79
   81
   71
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.20, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure s/p VAP s/p trach and peg
   #Respiratory failure:  Stable.  Now s/p Trach.  Previously failed
   extubation due to secretions.  Appears to have muscular weakness as
   contributor of muscle weakness.
   - Neuro believes he has critical illness myopathy
   -Got MRI today to ensure he does not have a c-spine lesion contributing
   to his weakness, will f/u read
   - on AC now will change to PS later today but no plan for weaning trial
   today to let pt rest
   - continue ipratropium
   - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB (restarted low dose today), ASA,
   ACEI and statin
   .
   # Rhythm: type II heart block on telemetry overnight on [**3-3**] and seemed
   to correlate with some hypotension to SBP 90s.  EKG today concerning
   for new A fib
   -EP says no plan for pacemaker
   -restarting low dose b-blocker today
   -will speak with cardiology today for new a fib
   .
   # Low grade fever overnight on [**3-3**]: No fever in last 24 hrs. Gram neg
   rods on gram stain no cx back yet.  UA with small leukocytes, sm blood,
   RBC 21, WBC 10, moderate yeast, bacteria negative
   -f/u sputum cx, blood cx
   -change foley for moderate yeast
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   BPH: Foley in place, will change today given yeast in urine
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Peg Tube .  Wll start TF today
   .
   Code: Full
   .
   #Dispo: Rehab post evaluate by cards, f/u of cultures, f/u MRI read
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-3-4**] 12:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-05 09:41:00 Physician Attending Progress Note
Chief Complaint: 77 man with resp failure: trach/PEG failed extub X 2
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Type II Heart Block - resolved after d/cing beta blocker
   24 Hour Events:
   A fib with controlled ventric response
   Occas episodes of sinus bradycardia overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-5**] 08:00 AM
   Other medications:
   [**Last Name (LF) 7028**], [**First Name3 (LF) **], levothyroxine, senna, captopril, simvastatin, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-5**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 74 (58 - 76) bpm
   BP: 113/42(60) {93/33(49) - 143/74(132)} mmHg
   RR: 24 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
                  Total In:
                                                                    947 mL
                                                                    402 mL
   PO:
                  TF:
                                                                    205 mL
                                                                    342 mL
   IVF:
                                                                    682 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    305 mL
   Urine:
                                                                    645 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    302 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 350 (350 - 498) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   196 K/uL
   71 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
                             [**2102-3-3**]  12:22 PM
                             [**2102-3-3**]  08:53 PM
                             [**2102-3-4**]  03:23 AM
   WBC
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   6.5
   Hct
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   29.4
   Plt
   333
   314
   261
   [**Telephone/Fax (3) 7014**]
   196
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   0.20
   Glucose
   90
   95
   89
   89
   100
   79
   81
   71
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.20, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure
   #Respiratory failure:  Stable.  Now s/p Trach.  Previously failed
   extubation due to secretions.  Appears to have muscular weakness as
   contributor of muscle weakness as cannot pull adequate tidal volumes
   w/o PS and has paradoxical respiration.
    -Hold on weaning pending transfer to rehab - do not want to run risk
   of another cardiac event
    - f/u Neuro recommedations no official note yet but they caleld and
   said they believe he has critical illness myopathy.
   - Had MRI per neuro to assess for other causes of weakness
   - start TF on trach tomorrow
   - continue ipratropium
    - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ BB, [**Telephone/Fax (3) **], will restart ACE and statin
   - R/o'd by enzymes for new NSTEMI
   # Rhythm - Afib with controlled VR
   EP does not feel ACID/pacer indicated
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   BPH: Foley in place
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-3-5**] 08:14 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill

2102-03-06 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Appeared agitated, trying to pull out vent tubing, but redirectable
   and calmed down once we realized that he wanted water for his mouth.
   -Avoided antipsychotics
   -Called family but they did not pick up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-6**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 78 (72 - 94) bpm
   BP: 138/59(77) {113/42(60) - 172/76(93)} mmHg
   RR: 25 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
                  Total In:
                                                                  1,174 mL
                                                                    425 mL
   PO:
                  TF:
                                                                  1,084 mL
                                                                    365 mL
   IVF:
   Blood products:
   Total out:
                                                                    825 mL
                                                                    280 mL
   Urine:
                                                                    825 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    349 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (350 - 520) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8.3 L/min
   Physical Examination
   Gen: Awake, following commands, unable to use letter board to
   communicate
   Heart: RRR, distant heart sounds
   Lungs: CTAB
   Abd: Soft, PEG tube in place, BS+
   Ext: Trace pitting edema
   Labs / Radiology
   196 K/uL
   9.6 g/dL
   71 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg] [**3-4**] labs
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
                             [**2102-3-3**]  12:22 PM
                             [**2102-3-3**]  08:53 PM
                             [**2102-3-4**]  03:23 AM
   WBC
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   6.5
   Hct
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   29.4
   Plt
   333
   314
   261
   [**Telephone/Fax (3) 7014**]
   196
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   0.20
   Glucose
   90
   95
   89
   89
   100
   79
   81
   71
   Assessment and Plan
   77 yo M w/ respiratory failure s/p VAP s/p trach and peg
   #Respiratory failure:  Stable.  Appears to have improved muscle
   strength globally.  Likely critical illness myopathy.
   - consider trial of trach collar
   -Got MRI today to ensure he does not have a c-spine lesion contributing
   to his weakness, will f/u read
   - continue ipratropium
   - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   .
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ ASA, ACEI and statin, holding BB
   given periods of type II 2^nd degree heart block.
   .
   # Rhythm: type II heart block on telemetry overnight on [**3-3**] and seemed
   to correlate with some hypotension to SBP 90s.  Also periods of atrial
   fib.
   -EP says no plan for pacemaker given prognosis
   -will speak with cardiology today for new a fib
   .
   # Low grade fever overnight on [**3-3**]: No fever in last 48 hrs. Gram neg
   rods on gram stain but looks like oropharyngeal contamination.
   -f/u sputum cx, blood cx
   - CXR
   - Hold Abx for now, but likely vanc/[**Last Name (un) 614**] if spikes true fever for VAP
   .
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   .
   BPH: Foley in place, will change today given yeast in urine
   .
   PPx: SubQ heparin, bowel reg
   .
   FEN: Peg Tube .  [**Last Name **] problem w/ TFs
   .
   Code: Full
   .
   #Dispo: Rehab post evaluate by cards, f/u of cultures, f/u MRI read
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-3-6**] 04:10 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-06 11:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Accepted in Rehab - planning on transfer today
   No events last 24 h
   In sinus with rate of 66; no further afib
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   asa, levothyroxine, senna, captopril, simvastatin, colace, hep sub q,
   ipratropium, chlorhexidine, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-6**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 79 (69 - 94) bpm
   BP: 135/56(77) {112/42(64) - 172/76(93)} mmHg
   RR: 27 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 69 Inch
                  Total In:
                                                                  1,174 mL
                                                                    617 mL
   PO:
                  TF:
                                                                  1,084 mL
                                                                    557 mL
   IVF:
   Blood products:
   Total out:
                                                                    825 mL
                                                                    420 mL
   Urine:
                                                                    825 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    349 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (373 - 520) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   196 K/uL
   71 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2102-2-22**]  05:41 PM
                             [**2102-2-23**]  04:21 AM
                             [**2102-2-24**]  04:09 AM
                             [**2102-2-25**]  03:52 AM
                             [**2102-2-26**]  05:05 AM
                             [**2102-2-28**]  04:52 AM
                             [**2102-3-1**]  05:21 AM
                             [**2102-3-3**]  12:22 PM
                             [**2102-3-3**]  08:53 PM
                             [**2102-3-4**]  03:23 AM
   WBC
   5.9
   5.3
   5.0
   5.1
   6.1
   5.1
   6.5
   Hct
   30.9
   30.8
   32.0
   30.5
   33.0
   29.9
   29.4
   Plt
   333
   314
   261
   [**Telephone/Fax (3) 7014**]
   196
   Cr
   0.9
   0.9
   0.9
   0.9
   0.8
   0.9
   0.9
   0.9
   TropT
   0.18
   0.20
   Glucose
   90
   95
   89
   89
   100
   79
   81
   71
   Other labs: PT / PTT / INR:13.4/26.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.20, ALT / AST:14/13, Alk Phos / T Bili:42/0.4,
   Amylase / Lipase:46/48, Differential-Neuts:74.5 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:5.1 %, Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL,
   LDH:164 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   77 yo M w/ respiratory failure s/p VAP s/p trach and peg
   #Respiratory failure:  Stable.  Appears to have improved muscle
   strength globally.  Likely critical illness myopathy.
   - consider trial of trach collar
   - continue ipratropium
   - When he can tolerate several hours off vent will consider for talk
   valve for trach.
   #CAD s/p NSTEMI, no wall motion abnormalities seen on echo.
   - Medication regimen optimized w/ ASA, ACEI and statin, holding BB
   given periods of type II 2nd degree heart block.
   # Rhythm: type II heart block on telemetry overnight on [**3-3**] and seemed
   to correlate with some hypotension to SBP 90s.  Also periods of atrial
   fib.
   -EP says no plan for pacemaker given prognosis
   # Low grade fever overnight on [**3-3**]: No fever in last 48 hrs. Gram neg
   rods on gram stain but looks like oropharyngeal contamination.
   -f/u sputum cx, blood cx
   - CXR
   - Hold Abx for now, but likely vanc/[**Last Name (un) 614**] if spikes true fever for VAP
   # AAA:  Patient with 3cm infra-renal AAA.  In light of patient other
   co-morbidities, will clinically monitor patient.
   - Patient will need f/u CT as outpatient in 6 months
   BPH: Foley in place, will change today given yeast in urine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2102-3-6**] 04:10 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-2-8**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill